2197-12-05 11:35:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   86 yo with chronic respiratory failure.  Admitted with b/l infiltrates,
   bleeding c/w DAH in setting of high INR.  Patient more awake, but not
   interactive.
   24 Hour Events:
 EKG - At [**2197-12-4**] 09:10 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2197-12-4**] 08:15 PM
   Bactrim (SMX/TMP) - [**2197-12-5**] 09:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2197-12-5**] 04:00 AM
   Other medications:
   chlorhexadine
   SSI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-12-5**] 11:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 72 (64 - 89) bpm
   BP: 104/50(61) {76/22(44) - 125/77(83)} mmHg
   RR: 12 (11 - 24) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 61 Inch
             Total In:
                                                                  2,249 mL
                                                                    622 mL
   PO:
             TF:
   IVF:
                                                                    855 mL
                                                                    622 mL
   Blood products:
                                                                  1,334 mL
   Total out:
                                                                    822 mL
                                                                    385 mL
   Urine:
                                                                    822 mL
                                                                    385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,427 mL
                                                                    237 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 40 cmH2O
   Plateau: 38 cmH2O
   Compliance: 14.8 cmH2O/mL
   SpO2: 98%
   ABG: ///39/
   Ve: 5.3 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : fine crackles b/l,
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, erythema around PEG
   site
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm
   Neurologic: No(t) Follows simple commands, Responds to: Tactile
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   228 K/uL
   76 mg/dL
   1.4 mg/dL
   39 mEq/L
   4.8 mEq/L
   34 mg/dL
   91 mEq/L
   136 mEq/L
   23.5 %
   8.9 K/uL
        [image002.jpg]
                             [**2197-12-4**]  02:37 AM
                             [**2197-12-4**]  03:54 PM
                             [**2197-12-5**]  04:00 AM
   WBC
   10.8
   8.9
   Hct
   20.9
   25.4
   23.5
   Plt
   271
   228
   Cr
   1.4
   1.4
   Glucose
   161
   76
   Other labs: PT / PTT / INR:16.1/34.5/1.4, ALT / AST:18/25, Alk Phos / T
   Bili:88/0.2, Amylase / Lipase:/54, Differential-Neuts:91.5 %, Lymph:2.6
   %, Mono:4.2 %, Eos:1.5 %, Albumin:2.8 g/dL, LDH:209 IU/L, Ca++:8.7
   mg/dL, Mg++:2.6 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 .H/O DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 HEMOPTYSIS:  No further bleeding.  Coagulopathy has been treated.
 .H/O ATRIAL FIBRILLATION (AFIB)
 .H/O BACTEREMIA
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]):  Has very stiff
   respiratory system with plateau pressures of 28.  Also has evidence of
   severe obstruction.   Has some intrinsic
   [**Known lastname **] disease  of unclear origin that is likely contributing.  Likely
   has multifactorial reason for failure to wean.  Her musculature is
   diffusely stiff so this may be playing a role in respiratory muscle
   weakness and stiffness.   Overall prognosis for weaning seems poor.
   VAP:  will complete course for prior VAP soon.
   PEG site cellulitis:  On vanco.  If not improving consider adding gram
   negative coverage.
   Right arm ulceration:  Will try and change PIC line to other side.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2197-12-4**] 02:20 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2197-12-06 06:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - STOP [**2197-12-5**] 08:00 PM
 PICC LINE - START [**2197-12-5**] 08:00 PM
   placed in ir
   -2u transfused, repeat hct
   wound care: stage 2 necrotic ulcer on L arm above PICC.
   -TF started per nutrition recs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2197-12-4**] 08:15 PM
   Bactrim (SMX/TMP) - [**2197-12-6**] 04:15 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2197-12-5**] 08:20 PM
   Furosemide (Lasix) - [**2197-12-5**] 09:58 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-12-6**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.7
C (98.1
   HR: 61 (61 - 88) bpm
   BP: 84/45(55) {76/28(44) - 124/60(82)} mmHg
   RR: 19 (7 - 20) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 61 Inch
             Total In:
                                                                  1,841 mL
                                                                    582 mL
   PO:
             TF:
                                                                     75 mL
                                                                    207 mL
   IVF:
                                                                  1,050 mL
                                                                    315 mL
   Blood products:
                                                                    656 mL
   Total out:
                                                                    995 mL
                                                                    605 mL
   Urine:
                                                                    995 mL
                                                                    605 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    846 mL
                                                                    -23 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 122
   RSBI Deferred: No Spon Resp
   PIP: 28 cmH2O
   Plateau: 23 cmH2O
   Compliance: 22.2 cmH2O/mL
   SpO2: 100%
   ABG: ///40/
   Ve: 5 L/min
   Physical Examination
   gen: responsive to voice, opens eyes, mouths words. Trach in place
   heent: actively fights opening eyes, tongue slightly dry
   neck: trach in place with no blood surrounding insertion site
   pulm: improved BS, less coarse bilaterally, no wheeze
   cv: irreg, difficult to hear due to vent noise, no m/r/g
   abd: firm, tympanic to percussion, no guarding or rebound, normal bowel
   sounds, no specific areas of palpation which elicit grimace, PEG tube
   in place in LUQ with increased surrounding erythema ( now 2cm blanching
   surrounding tube)
   extr: extremities warm, 3+ pitting edema to thighs, bruise on right
   hand, R PICC in place but stage 2 necrotic ulcer 1cm from PICC
   insertion site.
   neuro: trached, responsive, increased tone in all 4 extremities
   Labs / Radiology
   207 K/uL
   8.5 g/dL
   115 mg/dL
   1.5 mg/dL
   40 mEq/L
   4.4 mEq/L
   33 mg/dL
   91 mEq/L
   135 mEq/L
   24.0 %
   8.7 K/uL
        [image002.jpg]
                             [**2197-12-4**]  02:37 AM
                             [**2197-12-4**]  03:54 PM
                             [**2197-12-5**]  04:00 AM
                             [**2197-12-5**]  10:53 AM
                             [**2197-12-5**]  10:00 PM
                             [**2197-12-6**]  03:32 AM
   WBC
   10.8
   8.9
   8.7
   Hct
   20.9
   25.4
   23.5
   22.8
   25.4
   24.0
   Plt
   271
   228
   207
   Cr
   1.4
   1.4
   1.5
   Glucose
   161
   76
   115
   Other labs: PT / PTT / INR:20.9/35.8/2.0, ALT / AST:18/25, Alk Phos / T
   Bili:88/0.2, Amylase / Lipase:/54, Differential-Neuts:91.5 %, Lymph:2.6
   %, Mono:4.2 %, Eos:1.5 %, Albumin:2.8 g/dL, LDH:255 IU/L, Ca++:8.1
   mg/dL, Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   89 yo with PMH of alzheimer's dementia, hypernatremia, UTI presents
   with AMS, sepsis physiology, UTI, and impressive hypernatremia.
   .
   # Blood from trach: Seems from clinical history provided by rehab that
   patient's secretions initially were "blood tinged" and progressed to
   frankly blood over the course of the day on [**12-3**]. Her hematocrit in
   the same time period has decreased from 29-->23.8. Bronchoscopy on
   arrival to the ICU demonstrated bloody secretions which did not clear
   but became progressively bloodier making diffuse alveolar hemorrhage
   most likely diagnosis. However, could also represent lesion near trach
   insertion but this is less likely given bronch findings. In the setting
   of anticoagulation with aspirin and coumadin, needs supportive care
   with reversal of INR and workup for diffuse alveolar hemorrhage.  Now
   that INR reversed trach oozing decreased
   - After FFP and Vit K INR 1.4
   - HCT, goal > 24 to received 2 more units PRBC, check post transfusion
   HCT.
   - active T&S, has PICC for access. However Stage II ulcer surrounding
   pICC, must be removed. Failed bedside picc on L, IR order in.
   - DAH workup including antiGBM, ANCA pending
   - f/u BAL culture, blood cx
   - monitor oxygenation with appropriate ventilator support, attempt to
   decreased FIO2
   - no more vitamin K
   -per IP given timeline of 2 weeks s/p trach consider CT neck to f/u
   fistula if bleeding does not stop, HCT does not stabilize after
   correction of coags
   - hold aspirin and coumadin
   .
   # Respiratory failure: The patient continues to be ventilator dependent
   at her rehab facility. Post-bronch she will have full ventilator
   support with AC though airways were quite collapsable.
   - weaned propofol yesterday
   - continue treatment for pneumonia as below
   - Increased PVC on CXR, believe intravascularly euvolemic but 3^rd
   spacing [**2-4**] low alb. Will give 40 IV lasix after transfusion in attempt
   to mobilize fluid.
   - chlorhexidine
   - albuterol/atrovent nebs
   -decreased FIO2 to 50%, will attempt PS if possible
   .
   # Cellulitis: surrounding PEG site.
   -          started vanco given h/o MRSA
   -          awaiting ID approval
   -          switching PICC site [**2-4**] necrotic stage 2 ulcer
   -          wound care consult appreciated
   .
   # Acute renal failure: Likely related to volume depletion secondary to
   blood loss and up titration of lasix at rehab as creatinine has trended
   up over the past week per their records. Higher bicarbonate level would
   support volume depletion as well. Could represent component of systemic
   process if DAH associated with Goodpasture's or Wegener's.
   - trend creatinine
   - renally dose meds
   - avoid nephrotoxins
   - giving Lasix post transfusion since PVC to mobilze fluid
   (intravascularly may be dry but large vol 3^rd spacing
   - repeat UA  negative
   -sending antibodies for DAH as above
   .
   # paroxysmal afib: The patient was recently started on coumadin at the
   rehab facility with INR now > 5 on coumadin 5 mg daily. CHADs-2 score
   by my calculation only 1 due to age-not clear that patient has h/o
   hypertension or CHF and no documented h/o stroke or DM.
   - hold coumadin and aspirin
   - consider full dose aspirin for anticoagulation once out of acute
   episode
   - patient typically bradycardic per prior d/c summary, not on rate
   control meds
   .
   # Abdominal distension: Patient's abdomen is quite firm and appears
   distended. On CXR, she appears to have a large gas bubble in the
   stomach. Not particularly tender on exam, though this is difficult to
   determine given her mental status. Had small BM on arrival.
   - repeat  KUB no acute process
   -LFTs, lipase benign
   -when attempt to draw back on PEG no air.
   .
   # Recent Stenotrophomonas VAP: Continue bactrim 250 mg IV q8h, stop
   date 12/5 per prior d/c summary
   -bactrim may account for supratheraputic INR
   -role in VAP leading to pulm hemorrhage unclear
   .
   # Alzheimer's/?altered mental status: Recent baseline unclear. [**Name2 (NI) **]
   discuss with family in AM. For now, likely delirium given acute event
   on top of usual dementia. Will continue home meds when using PEG tube
   (await KUB result).
   .
   # PPx: PPI, restart heparinj SQ since no longer theraputic &
   pneumoboots, bowel regimen prn
   .
   #FEN: awaiting nutrition recs for TF.
   .
   # Code: full, confirmed with son [**Name (NI) 6287**] [**Name (NI) 904**] who is HCP
   .
   # Access: Right-sided PICC (placed at [**Hospital1 54**] during previous admission).
   To be removed once Left picc placed by IR
   .
   # Communication: With patient and son [**Name (NI) 6287**] [**Known lastname 6767**]([**Telephone/Fax (1) 6768**] cell
   .
   # Dispo: ICU level care given vent requirement
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2197-12-5**] 09:00 PM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2197-12-5**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2197-12-06 12:04:00 Physician Attending Progress Note
Chief Complaint: hemorrhage
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   89 yo women with chronic respiratory failure after recent sepsis.
   Returned for pulmonary hemorrhage in setting of coagulopathy.
   Yesterday PIC line was replaced due to ulcer near site.
   24 Hour Events:
 PICC LINE - STOP [**2197-12-5**] 08:00 PM
 PICC LINE - START [**2197-12-5**] 08:00 PM
   placed in IR
   received 2U PRBCs yesterday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2197-12-4**] 08:15 PM
   Bactrim (SMX/TMP) - [**2197-12-6**] 04:15 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2197-12-5**] 09:58 PM
   Heparin Sodium (Prophylaxis) - [**2197-12-6**] 08:06 AM
   Other medications:
   chlorhex
   protonix
   SSI
   atrovent
   hep s/q
   lactulose
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-12-6**] 12:03 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37
C (98.6
   HR: 100 (61 - 100) bpm
   BP: 176/70(95) {80/28(44) - 176/70(95)} mmHg
   RR: 29 (7 - 29) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 61 Inch
             Total In:
                                                                  1,841 mL
                                                                    781 mL
   PO:
             TF:
                                                                     75 mL
                                                                    385 mL
   IVF:
                                                                  1,050 mL
                                                                    336 mL
   Blood products:
                                                                    656 mL
   Total out:
                                                                    995 mL
                                                                    635 mL
   Urine:
                                                                    995 mL
                                                                    635 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    846 mL
                                                                    146 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 400) mL
   Vt (Spontaneous): 250 (192 - 250) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 122
   RSBI Deferred: No Spon Resp
   PIP: 16 cmH2O
   Plateau: 23 cmH2O
   Compliance: 22.2 cmH2O/mL
   SpO2: 93%
   ABG: ///40/
   Ve: 6 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, some erythema around
   PEG tube site
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.5 g/dL
   207 K/uL
   115 mg/dL
   1.5 mg/dL
   40 mEq/L
   4.4 mEq/L
   33 mg/dL
   91 mEq/L
   135 mEq/L
   24.0 %
   8.7 K/uL
        [image002.jpg]
                             [**2197-12-4**]  02:37 AM
                             [**2197-12-4**]  03:54 PM
                             [**2197-12-5**]  04:00 AM
                             [**2197-12-5**]  10:53 AM
                             [**2197-12-5**]  10:00 PM
                             [**2197-12-6**]  03:32 AM
   WBC
   10.8
   8.9
   8.7
   Hct
   20.9
   25.4
   23.5
   22.8
   25.4
   24.0
   Plt
   271
   228
   207
   Cr
   1.4
   1.4
   1.5
   Glucose
   161
   76
   115
   Other labs: PT / PTT / INR:20.9/35.8/2.0, ALT / AST:24/45, Alk Phos / T
   Bili:64/0.4, Amylase / Lipase:/54, Differential-Neuts:91.5 %, Lymph:2.6
   %, Mono:4.2 %, Eos:1.5 %, Albumin:2.8 g/dL, LDH:255 IU/L, Ca++:8.1
   mg/dL, Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   Fluid analysis / Other labs: ANCA negative
   GBM:  pending
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING):
   Ongoing blood loss, has guaiac + stool,  and also has hematoma at PIC
   line site.  Will
   try and correct coagulopathy in attempt to stop bleeding, otherwise she
   may need GI w/u.  Increase to PPI [**Hospital1 **].
   Respiratory failure:  tolerating PSV well, although very low Vt, given
   poor respiratory system compliance.   So will tolerate hypercarbia.
   Hypervolemia:  continue attempts at diuresis as she is grossly fluid
   overloaded.
   ?Peg site cellulitis:  if not improved consider treating for fungal
   infection, if improves can do full course of therapy for cellulits.
   AF: rate controlled.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2197-12-5**] 09:00 PM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2197-12-5**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2197-12-07 06:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - UO minimal, even with several doses of lasix
   - Cr increased after lasix 80 IV x1
   - Urine lytes sent
   - erythema around PEG improved
   - INR elevated, gave PO vit K.
   Allergies:
   No Known Drug Allergies
   Antibiotics:
   Vancomycin
   Bactrim (SMX/TMP)
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2197-12-6**] 08:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unable to assess
   Flowsheet Data as of  [**2197-12-7**] 06:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36
C (96.8
   HR: 73 (65 - 100) bpm
   BP: 107/52(65) {80/24(49) - 176/70(95)} mmHg
   RR: 33 (18 - 35) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 61 Inch
             Total In:
                                                                  1,800 mL
                                                                    331 mL
   PO:
             TF:
                                                                    969 mL
                                                                    271 mL
   IVF:
                                                                    741 mL
                                                                     60 mL
   Blood products:
   Total out:
                                                                  1,070 mL
                                                                     50 mL
   Urine:
                                                                  1,070 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    730 mL
                                                                    281 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 138 (138 - 535) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 35
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 122
   RSBI Deferred: RR >35
   PIP: 16 cmH2O
   SpO2: 97%
   ABG:
   Ve: 6.2 L/min
   Physical Examination
   gen: responsive to voice, opens eyes, mouths words. Trach in place
   heent: actively fights opening eyes, tongue slightly dry
   neck: trach in place with no blood surrounding insertion site
   pulm: b/l end expiratory wheezing
   cv: irreg, difficult to hear due to vent noise, no m/r/g
   abd: firm, distended, tympanic to percussion, no guarding or rebound,
   normal bowel sounds, no specific areas of palpation which elicits
   grimace, PEG tube in place in LUQ with surrounding erythema improved
   (from prior marking)
   extr: extremities warm, 3+ pitting edema to thighs as well as in b/l UE
   L>R, bruise on right hand, R arm w/bandage over ulcer site. L PICC in
   place with surrounding hematoma and tracking of blood into the axilla
   and superior-lateral chest wall.
   neuro: trached, responsive, increased tone in all 4 extremities
   Labs / Radiology
   280 K/uL
   9.0 g/dL
   132 mg/dL
   1.9 mg/dL
   42 mEq/L
   5.0 mEq/L
   38 mg/dL
   89 mEq/L
   134 mEq/L
   26.6 %
   13.5 K/uL
        [image002.jpg]
                             [**2197-12-4**]  02:37 AM
                             [**2197-12-4**]  03:54 PM
                             [**2197-12-5**]  04:00 AM
                             [**2197-12-5**]  10:53 AM
                             [**2197-12-5**]  10:00 PM
                             [**2197-12-6**]  03:32 AM
                             [**2197-12-6**]  12:22 PM
                             [**2197-12-7**]  03:34 AM
   WBC
   10.8
   8.9
   8.7
   12.7
   13.5
   Hct
   20.9
   25.4
   23.5
   22.8
   25.4
   24.0
   25.7
   26.6
   Plt
   271
   228
   207
   241
   280
   Cr
   1.4
   1.4
   1.5
   1.7
   1.9
   Glucose
   161
   76
   115
   120
   132
   Other labs:
   PT / PTT / INR:25.3/32.2/2.5 (from 2.0)
   Ca++:8.4 mg/dL, Mg++:2.7 mg/dL, PO4:4.3 mg/dL
   UCx negative
   BCx, wound Cx pending
   Bronchial washing gram stain negative, respiratory Cx w/oropharyngeal
   flora.
   Assessment and Plan
   89 yo with PMH of alzheimer's dementia, hypernatremia, urosepsis,
   pneumonia, and recent d/c from MICU presents with AMS, elevated INR and
   frank blood from her tracheostomy.
   .
   # Blood from trach: Seems from clinical history provided by rehab that
   patient's secretions initially were "blood tinged" and progressed to
   frankly blood over the course of the day on [**12-3**]. Her hematocrit in
   the same time period has decreased from 29-->23.8. Bronchoscopy on
   arrival to the ICU demonstrated bloody secretions which did not clear
   but became progressively bloodier making diffuse alveolar hemorrhage
   most likely diagnosis. However, could also represent lesion near trach
   insertion but this is less likely given bronch findings. In the setting
   of anticoagulation with aspirin and coumadin, needs supportive care
   with reversal of INR and workup for diffuse alveolar hemorrhage.  Given
   FFP, Vitamin K.  Now that INR reversed trach oozing decreased, although
   INR now trending up again, up to 2.5 today. Had 1x tarry black guiac
   positive stool yesterday, today w/heme positive brown stool, but Hct
   stable.  Giving PO Vitamin K 5mg x 3 days.  Unclear why INR continues
   to be supratherapeutic. LFTs wnl.  Platelets wnl. Could be due to IV
   Bactrim?  Needs coagulopathy reversed before can safely return to rehab
   given presenting complaint of alveolar hemorrhage. ANCA negative, anti
   GBM pending.
   - 1x IV vitamin K today, recheck INR tomorrow
   - Active T&S, has new PICC for access
   - antiGBM pending
   - f/u blood cx
   - hold aspirin and coumadin
   - ( to keep in mind: per IP given timeline of 2 weeks s/p trach
   consider CT neck to f/u fistula if bleeding does not stop, HCT does not
   stabilize after correction of coags)
   .
   # Respiratory failure: Initial decompensation likely due to diffuse
   alveolar hemorrhage, although contribution of underlying pneumonia,
   fluid overload, and baseline [**Known lastname **] disease (?) likely contribute.  Of
   note, during prior admission patient was unsuccessfully extubated twice
   and could not be weaned off the vent after several attempts due to high
   RISBIs and academia.  The patient continued to be ventilator dependent
   at her rehab facility and has failed trach mask and low pressure
   support ventilation during this admission b/c of very low tidal volumes
   (down to 130
s) which improved after pressure support was increased
   from 10 to 20. Patient
s air movement also did improve after albuterol
   nebulizer treatment as per nurse.   Lasix boluses d/c at this point b/c
   of rising Cr.
   - continue treatment for pneumonia as below
   - chlorhexidine
   - albuterol/atrovent MDI  - increase albuterol MDI to Q4h
   - PSV trials, continue to try to wean pressure support and peep as
   tolerated
   .
   # Erythema surrounding PEG site.  Erythema likely combination of
   dermatitis/skin breakdown from pressure of PEG on skin w/some
   cellulitic component. Improved after 3 days on vanco and after padded
   bandage placed between PEG and skin
   -          Continue vanco for 10day course
 last day of antibiotics
   [**12-14**]
   .
   # Acute renal failure: Likely related to volume depletion secondary to
   blood loss and up titration of lasix at rehab and in MICU as creatinine
   has trended up over the past week per their records. Higher bicarbonate
   level would support volume depletion as well.
   - hold lasix
   - urine lytes, urine Eos
   - spin urine for casts
   - trend creatinine
   - renally dose meds
   - re-check vanco trough tomorrow
   - avoid nephrotoxins as possible
   .
   # L arm hematoma: Likely due to traumatic picc placement.  Does not
   appear to worsening but will follow closely.
   -          warm packs to area
   -          to follow.
   .
   # Paroxysmal afib: The patient was recently started on coumadin at the
   rehab facility with INR now > 5 on coumadin 5 mg daily. CHADs-2 score
   by my calculation only 1 due to age-not clear that patient has h/o
   hypertension or CHF and no documented h/o stroke or DM.
   - hold coumadin and aspirin
   - consider full dose aspirin for anticoagulation once out of acute
   episode
   - patient typically bradycardic per prior d/c summary, not on rate
   control meds
   .
   # Abdominal distension: NTTP.  Resolved with bowel movement.  Had CXR
   several days ago with what appeared to be a large gas bubble in the
   stomach. Repeat  KUB showed no acute process, LFTs and lipase benign.
   When attempt to draw back on PEG no air noted.
   .
   # Recent Stenotrophomonas VAP: Continue bactrim 250 mg IV q8h, stop
   date 12/5 per prior d/c summary
   -bactrim may account for supratheraputic INR
   -role in VAP leading to pulm hemorrhage unclear
   .
   # Alzheimer's/? altered mental status: Low functioning at baseline.
   Delirium given acute event on top of usual dementia not improving
   situation. To continue home meds when using PEG tube (await KUB
   result).
   .
   # PPx: Increase PPI to [**Hospital1 **], d/c heparin SQ since INR 2.0. Continue
   pneumoboots. Change bowel regimen to prn b/c of diarrhea.
   .
   #FEN: re-start TF as per nutrition.
   .
   # Code: full, confirmed with son [**Name (NI) 6287**] [**Name (NI) 904**] who is HCP
   .
   # Access: Right-sided PICC (placed at [**Hospital1 54**] during previous admission).
   To be removed once Left picc placed by IR
   .
   # Communication: With patient and son [**Name (NI) 6287**] [**Known lastname 6767**]([**Telephone/Fax (1) 6768**] cell
   .
   # Dispo: ICU level care given vent requirement
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2197-12-7**] 02:13 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2197-12-5**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2197-12-07 12:03:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   89 yo women with chronic respiratory failure, presented with pulmonary
   hemorrhage.  VT too small on PSV 10, so she was increased to PSV 20.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2197-12-4**] 08:15 PM
   Bactrim (SMX/TMP) - [**2197-12-6**] 12:01 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2197-12-7**] 07:37 AM
   Other medications:
   bactrim
   SSI
   atrovent
   protonix
   vitamin K
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-12-7**] 12:03 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.5
   HR: 72 (70 - 95) bpm
   BP: 93/46(75) {88/34(49) - 150/62(82)} mmHg
   RR: 22 (22 - 43) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  1,800 mL
                                                                    711 mL
   PO:
             TF:
                                                                    969 mL
                                                                    524 mL
   IVF:
                                                                    741 mL
                                                                    127 mL
   Blood products:
   Total out:
                                                                  1,070 mL
                                                                    142 mL
   Urine:
                                                                  1,070 mL
                                                                    142 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    730 mL
                                                                    569 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 274 (138 - 535) mL
   PS : 20 cmH2O
   RR (Set): 0
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: RR >35
   PIP: 27 cmH2O
   SpO2: 98%
   ABG: ///42/
   Ve: 6.4 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: inspiratory and expiratory
   rhonchi, with exp wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   280 K/uL
   132 mg/dL
   1.9 mg/dL
   42 mEq/L
   5.0 mEq/L
   38 mg/dL
   89 mEq/L
   134 mEq/L
   26.6 %
   13.5 K/uL
        [image002.jpg]
                             [**2197-12-4**]  02:37 AM
                             [**2197-12-4**]  03:54 PM
                             [**2197-12-5**]  04:00 AM
                             [**2197-12-5**]  10:53 AM
                             [**2197-12-5**]  10:00 PM
                             [**2197-12-6**]  03:32 AM
                             [**2197-12-6**]  12:22 PM
                             [**2197-12-7**]  03:34 AM
   WBC
   10.8
   8.9
   8.7
   12.7
   13.5
   Hct
   20.9
   25.4
   23.5
   22.8
   25.4
   24.0
   25.7
   26.6
   Plt
   271
   228
   207
   241
   280
   Cr
   1.4
   1.4
   1.5
   1.7
   1.9
   Glucose
   161
   76
   115
   120
   132
   Other labs: PT / PTT / INR:25.3/32.2/2.5, ALT / AST:24/45, Alk Phos / T
   Bili:64/0.4, Amylase / Lipase:/54, Differential-Neuts:93.6 %, Lymph:2.8
   %, Mono:3.0 %, Eos:0.6 %, Albumin:2.8 g/dL, LDH:255 IU/L, Ca++:8.4
   mg/dL, Mg++:2.7 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   Coagulopathy:  unclear if she is absorbing vitamin K, so will try an IV
   dose.
   Respiratory failure:  Will try to rest her on AC for some time.   Will
   start albuterol q4h standing
   PEG site cellulitis:  looks improved, continue vanco for 10 days.
   Acute on chronic renal failure:  hold further lasix.  Likely due to
   intravascular hypovolemia.
   Hemorrhage:  Hct has been stable.  Stool is guaiac positive but no
   immediate need for endoscopy.
   Will try to discharge tomorrow back to rehab.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2197-12-7**] 02:13 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2197-12-5**] 08:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2197-12-08 05:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
     * FeUrea: 34%
     * Urine sediment with rare hyaline casts and eosinophils
     * UA positive - started Unasyn based on UCx and sensitivity from last
       admission, sent culture
     * INR 2.5 yest -> given IV Vitamin K
     * Hct 26 -> 21.6 -> 20.7 this am -> given 2U PRBC
   Allergies:
   No Known Drug Allergies
   Antibiotics:
   Ampicillin/Sulbactam (Unasyn)
   Bactrim (SMX/TMP)
   Vancomycin IV
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2197-12-7**] 08:34 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unable to obtain
   Flowsheet Data as of  [**2197-12-8**] 05:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (99
   HR: 74 (68 - 90) bpm
   BP: 113/52(64) {87/32(47) - 123/52(75)} mmHg
   RR: 31 (20 - 43) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  2,540 mL
                                                                    957 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    243 mL
   IVF:
                                                                  1,310 mL
                                                                    654 mL
   Blood products:
   Total out:
                                                                    370 mL
                                                                    125 mL
   Urine:
                                                                    370 mL
                                                                    125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,170 mL
                                                                    832 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (300 - 300) mL
   Vt (Spontaneous): 280 (223 - 297) mL
   PS : 20 cmH2O
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 125
   PIP: 38 cmH2O
   Plateau: 25 cmH2O
   Compliance: 15 cmH2O/mL
   SpO2: 96%
   ABG: ///38/
   Ve: 6.5 L/min
   Physical Examination
   gen: responsive to voice, opens eyes, mouths words. Trach in place
   neck: trach in place with no blood surrounding insertion site
   chest: 6x10cm firm mass over anterior L chest w/out overlying echymosis
   pulm: b/l expiratory wheezing
   cv: irreg, difficult to hear due to vent noise, no m/r/g
   abd: firm, distendedno guarding or rebound, normal bowel sounds, no
   specific areas of palpation which elicits grimace, PEG tube in place in
   LUQ with surrounding erythema improved (from prior marking)
   extr: extremities warm, 3+ pitting edema to thighs as well as in b/l UE
   L>R, bruise on right hand, R arm w/bandage over ulcer site. L PICC in
   place with surrounding hematoma and tracking of blood into the axilla
   and superior-lateral chest wall.
   neuro: trached, responsive, increased tone in all 4 extremities
   Labs / Radiology
   249 K/uL
   7.5 g/dL
   71 mg/dL
   2.0 mg/dL
   38 mEq/L
   4.6 mEq/L
   43 mg/dL
   90 mEq/L
   134 mEq/L
   21.6 %
   11.6 K/uL
        [image002.jpg]
                      (repeat Hct 20.7)
                             [**2197-12-4**]  02:37 AM
                             [**2197-12-4**]  03:54 PM
                             [**2197-12-5**]  04:00 AM
                             [**2197-12-5**]  10:53 AM
                             [**2197-12-5**]  10:00 PM
                             [**2197-12-6**]  03:32 AM
                             [**2197-12-6**]  12:22 PM
                             [**2197-12-7**]  03:34 AM
                             [**2197-12-8**]  03:56 AM
   WBC
   10.8
   8.9
   8.7
   12.7
   13.5
   11.6
   Hct
   20.9
   25.4
   23.5
   22.8
   25.4
   24.0
   25.7
   26.6
   21.6
   Plt
   271
   228
   207
   241
   280
   249
   Cr
   1.4
   1.4
   1.5
   1.7
   1.9
   2.0
   Glucose
   161
   76
   115
   120
   132
   71
   Other labs:
   PT / PTT / INR:16.4/28.8/1.5 (from 2.0)
   Ca++:8.2 mg/dL, Mg++:2.6 mg/dL, PO4:2.9 mg/dL
   Albumin 2.7
   UA: 21-50 RBC/[**6-13**] WBC/Moderate Bacteria
   Stool CDiff negative
   Bronchial washing w/~[**2189**] oropharyngeal flora
   Assessment and Plan
   89 yo with PMH of alzheimer's dementia, hypernatremia, urosepsis,
   pneumonia, and recent d/c from MICU presents with AMS, elevated INR and
   frank blood from her tracheostomy.
   .
   # Blood from trach: Seems from clinical history provided by rehab that
   patient's secretions initially were "blood tinged" and progressed to
   frankly blood over the course of the day on [**12-3**]. Her hematocrit in
   the same time period has decreased from 29-->23.8. Bronchoscopy on
   arrival to the ICU demonstrated bloody secretions which did not clear
   but became progressively bloodier making diffuse alveolar hemorrhage
   most likely diagnosis. However, could also represent lesion near trach
   insertion but this is less likely given bronch findings. In the setting
   of anticoagulation with aspirin and coumadin, needs supportive care
   with reversal of INR and workup for diffuse alveolar hemorrhage.  Given
   FFP, Vitamin K PO, and then Vitamin K IV for refractory elevated INR.
   Once INR reversed trach oozing decreased. Needs coagulopathy reversed
   before can safely return to rehab given presenting complaint of
   alveolar hemorrhage. ANCA negative, anti GBM pending.
   - 1x IV vitamin K today, recheck INR tomorrow
   - Active T&S, has new PICC for access
   - antiGBM pending
   - f/u blood cx
   - hold aspirin and coumadin
   - ( to keep in mind: per IP given timeline of 2 weeks s/p trach
   consider CT neck to f/u fistula if bleeding does not stop, HCT does not
   stabilize after correction of coags)
   .
   # Anemia: Hct drop x3 since admission. Transfused 3x with 2U of blood.
   Initial drop explained by DAH. Hct trended down after 2U PRBC given. In
   setting of melena and another Hct drop to 22.8, transfused additional
   2U 2 d ago.  Now w/additional Hct drop to 20.7 today w/out clear
   explanation.  Hemolysis labs sent.  Moderate hematoma in L arm and
   possibly anterior chest, but not enough to explain Hct drop.
   Possibility of spontaneous intraperitoneal or retroperitoneal
   hemorrhage?
   -          Non-contrast abd CT
   -          f/u hemolysis labs
   -          follow hematoma size
   -          Post transfusion Hct, Q12h Hcts
   .
   # Acute renal failure: Likely related to volume depletion secondary to
   blood loss and up titration of lasix at rehab and in MICU as creatinine
   has trended up over the past week per their records.  UOP had been poor
   and unresponsive to lasix but has improved over last 12 h as per
   nursing.  Higher bicarbonate level and FeUREA of 34% would support
   volume depletion as well.  UA w/few eos, rare hyaline casts reported.
   Did have hematuria, but difficult to interpret in setting of indwelling
   foley, elevated INR, and likely UTI. Anti-GBM pending.
   - hold lasix
   - pm lytes
   - spin urine for casts (team to do, not lab)
   - trend creatinine
   - renally dose meds
   - avoid nephrotoxins as possible
   .
   # Respiratory failure: Initial decompensation likely due to diffuse
   alveolar hemorrhage, although contribution of underlying pneumonia,
   fluid overload, and baseline [**Known lastname **] disease (?) likely contribute.  Of
   note, during prior admission patient was unsuccessfully extubated twice
   and could not be weaned off the vent after several attempts due to high
   RISBIs and academia.  The patient continued to be ventilator dependent
   at her rehab facility and has failed trach mask and low pressure
   support ventilation during this admission b/c of very low tidal volumes
   (down to 130
s) which improved after pressure support was increased
   from 10 to 20. Patient
s air movement also did improve after albuterol
   nebulizer treatment as per nurse.   Lasix boluses d/c at this point b/c
   of rising Cr.  Increased albuterol MDI to Q4h yesterday.
   - continue treatment for pneumonia as below
   - chlorhexidine
   - albuterol/atrovent MDI  -
   - PSV trials, continue to try to wean pressure support and peep as
   tolerated
   .
   # Erythema surrounding PEG site.  Erythema likely combination of
   dermatitis/skin breakdown from pressure of PEG on skin w/some
   cellulitic component. Improved after 3 days on vanco and after padded
   bandage placed between PEG and skin
   -          Continue vanco for 10day course
 last day of antibiotics
   [**12-14**]
   .
   # L arm hematoma: Likely due to traumatic picc placement.  Does not
   appear to worsening but will follow closely.  Anterior chest wall mass
   likely a continuation of same process.
   -          warm packs to area
   -          to follow.
   .
   # Paroxysmal afib: The patient was recently started on coumadin at the
   rehab facility with INR now > 5 on coumadin 5 mg daily. CHADs-2 score
   by my calculation only 1 due to age-not clear that patient has h/o
   hypertension or CHF and no documented h/o stroke or DM.
   - hold coumadin and aspirin
   - consider full dose aspirin for anticoagulation once out of acute
   episode
   - patient typically bradycardic per prior d/c summary, not on rate
   control meds
   .
   # Abdominal distension: NTTP.  Resolved with bowel movement.  Had CXR
   several days ago with what appeared to be a large gas bubble in the
   stomach. Repeat  KUB showed no acute process, LFTs and lipase benign.
   When attempt to draw back on PEG no air noted.  In setting of Hct drop
   and spontaneous alveolar bleeding, could possibly due to
   intraperitoneal bleeding?
   - f/u CT result
   .
   # Recent Stenotrophomonas VAP: Bactrim 250 mg IV q8h, stop date today
   per prior d/c summary.
   .
   # Alzheimer's/? altered mental status: Low functioning at baseline.
   Delirium given acute event on top of usual dementia not improving
   situation. To continue home meds when using PEG tube (await KUB
   result).
   .
   # PPx: Increased PPI to [**Hospital1 **], d/c heparin SQ since INR 2.0. Continue
   pneumoboots. Change bowel regimen to prn b/c of diarrhea.
   .
   #FEN: re-start TF as per nutrition.
   .
   # Code: full, confirmed with son [**Name (NI) 6287**] [**Name (NI) 904**] who is HCP
   .
   # Access: Right-sided PICC (placed at [**Hospital1 54**] during previous admission).
   To be removed once Left picc placed by IR
   .
   # Communication: With patient and son [**Name (NI) 6287**] [**Known lastname 6767**]([**Telephone/Fax (1) 6768**] cell
   .
   # Dispo: ICU level care given vent requirement
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2197-12-8**] 01:36 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2197-12-5**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2197-12-08 11:04:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Hemoptysis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient wtih worsening edema
   Patient with persistent poor urine output
   24 Hour Events:
 URINE CULTURE - At [**2197-12-8**] 12:24 AM
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2197-12-8**] 12:00 AM
   Bactrim (SMX/TMP) - [**2197-12-8**] 04:27 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2197-12-7**] 08:34 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-12-8**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.3
C (97.3
   HR: 76 (68 - 90) bpm
   BP: 83/54(61) {83/32(47) - 123/69(75)} mmHg
   RR: 23 (20 - 39) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 61 Inch
           Total In:
                                                                  2,540 mL
                                                                  1,588 mL
   PO:
           TF:
                                                                  1,080 mL
                                                                    488 mL
   IVF:
                                                                  1,310 mL
                                                                    674 mL
   Blood products:
   367 mL
   Total out:
                                                                    370 mL
                                                                    755 mL
   Urine:
                                                                    370 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,170 mL
                                                                    833 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (300 - 300) mL
   Vt (Spontaneous): 280 (274 - 280) mL
   PS : 20 cmH2O
   RR (Set): 22
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 125
   PIP: 33 cmH2O
   Plateau: 25 cmH2O
   Compliance: 15 cmH2O/mL
   SpO2: 97%
   ABG: ///38/
   Ve: 6.1 L/min
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Wheezes : increased expiratory phase, Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, mild
   cellulitis in G-tube side
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed, echymosis in multiple areas of anterior chest
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.5 g/dL
   249 K/uL
   71 mg/dL
   2.0 mg/dL
   38 mEq/L
   4.6 mEq/L
   43 mg/dL
   90 mEq/L
   134 mEq/L
   20.7 %
   11.6 K/uL
        [image002.jpg]
                             [**2197-12-4**]  02:37 AM
                             [**2197-12-4**]  03:54 PM
                             [**2197-12-5**]  04:00 AM
                             [**2197-12-5**]  10:53 AM
                             [**2197-12-5**]  10:00 PM
                             [**2197-12-6**]  03:32 AM
                             [**2197-12-6**]  12:22 PM
                             [**2197-12-7**]  03:34 AM
                             [**2197-12-8**]  03:56 AM
                             [**2197-12-8**]  05:23 AM
   WBC
   10.8
   8.9
   8.7
   12.7
   13.5
   11.6
   Hct
   20.9
   25.4
   23.5
   22.8
   25.4
   24.0
   25.7
   26.6
   21.6
   20.7
   Plt
   271
   228
   207
   241
   280
   249
   Cr
   1.4
   1.4
   1.5
   1.7
   1.9
   2.0
   Glucose
   161
   76
   115
   120
   132
   71
   Other labs: PT / PTT / INR:16.4/28.8/1.5, ALT / AST:24/45, Alk Phos / T
   Bili:64/0.2, Amylase / Lipase:/54, Differential-Neuts:93.6 %, Lymph:2.8
   %, Mono:3.0 %, Eos:0.6 %, Albumin:2.7 g/dL, LDH:283 IU/L, Ca++:8.2
   mg/dL, Mg++:2.6 mg/dL, PO4:2.9 mg/dL
   Microbiology: U/A--Pending
   Assessment and Plan
   89 yo female now with chronic ventilatory failure and re-admission from
   outside facility now re-admitted with signfiicant hemoptysis and
   persistent respiratory failure.  This hemoptysis was in the setting of
   anticoagulation started for atrial fibrillation but not with hemotysis
   patient will need clear control of coagulopathy.  Of note is that she
   is having worsening renal failure and evolution of signficant and
   persistent anemia.
   1)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])-
   -Bactrim
   -Atrovent
   -Vanco/Unasyn
   -Will continue with A/C support and will need slow RR as possible
   -bactrim to be completed today
   2)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)-
   -Patient with persistent and worsening renal function in the setting of
   likely pre-renal azotemia
   -Will work to maintain adequate volume status
   3)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)-Much
   of initial loss may well have been related to pulmonary hemorrhage but
   have seen persistent and ongoing anemia.  INR has now been corrected to
   1.5.  The findings on exam suggesting chest wall hematoma is concerning
   for possible blood loss but is relatively large volume.
   -Check Hemorrhage
   -Continue FFP
   -Would consider Chest/Abd Ct for evaluation of possible sources of
   ongong bleeding.
   Additional issues to be managed as discussed in the housestaff note of
   this date
 EDEMA, PERIPHERAL
 IMPAIRED SKIN INTEGRITY
 .H/O DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 HEMOPTYSIS
 .H/O ATRIAL FIBRILLATION (AFIB)
 .H/O BACTEREMIA
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2197-12-8**] 01:36 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2197-12-5**] 08:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Will need to continue to work with family on
   goals of care
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2197-12-09 06:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ENDOSCOPY - At [**2197-12-8**] 07:03 PM
   bedside scope to adjust peg site
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2197-12-8**] 09:00 PM
   Vancomycin - [**2197-12-8**] 09:28 PM
   Ampicillin/Sulbactam (Unasyn) - [**2197-12-9**] 12:30 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2197-12-8**] 05:00 PM
   Midazolam (Versed) - [**2197-12-8**] 05:00 PM
   Pantoprazole (Protonix) - [**2197-12-8**] 08:28 PM
   Other medications:
   Reglan
   Fenyanyl
   Versed
   Senna
   Amp-sulbactam
   Lactulose
   Vanco
   Albuterol
   Polyethylene glycol
   Colace
   Protonix
   Bisacodyl
   ISS
   Ipratropium
   Chlorhexidine
   tylenol
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-12-9**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.4
C (97.5
   HR: 61 (58 - 84) bpm
   BP: 100/43(55) {83/28(44) - 123/58(95)} mmHg
   RR: 31 (17 - 34) insp/min
   SpO2: 96% (95-99)
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
           Total In:
                                                                  3,012 mL
                                                                    444 mL
   PO:
           TF:
                                                                    767 mL
   IVF:
                                                                  1,605 mL
                                                                    165 mL
   Blood products:
                                                                    550 mL
                                                                    279 mL
   Total out:
                                                                  1,147 mL
                                                                    185 mL
   Urine:
                                                                    647 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,865 mL
                                                                    259 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (300 - 300) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 198
   PIP: 33 cmH2O
   Plateau: 27 cmH2O
   SpO2: 96%
   ABG: ///38/
   Ve: 6.5 L/min
   Physical Examination
   gen: responsive to voice, opens eyes, mouths words. Trach in place
   neck: trach in place with no blood surrounding insertion site
   chest: 6x10cm firm  left flank/chest wall echymosis traching down from
   L axilla.  Advanced over marker from yesterday
   pulm: b/l decreased BS at bases
   cv: irreg distant HS, no m/r/g
   abd: firm, non-distended no guarding or rebound, normal bowel sounds,
   no specific areas of palpation which elicits grimace, PEG tube in place
   in LUQ with surrounding erythema improved (from prior marking) but new
   pus around tube site
   extr: extremities warm, 3+ pitting edema to thighs as well as in b/l UE
   L>R, bruise on right hand, R arm w/bandage over ulcer site. L PICC in
   place with surrounding hematoma and tracking of blood into the axilla
   and superior-lateral chest wall.
   neuro: trached, responsive, increased tone in all 4 extremities
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   183 K/uL
   9.7 g/dL
   82 mg/dL
   1.8 mg/dL
   38 mEq/L
   4.3 mEq/L
   45 mg/dL
   90 mEq/L
   135 mEq/L
   26.7 %
   10.7 K/uL
        [image002.jpg]
   Hct: 25.4, to 23.2, to 26.7
   Cr 2.0 to 1.8
   [**12-8**] vanco: 15
   Micro: [**12-7**] urine pending
   Cdiff neg
   Picc tip cult neg
   [**12-4**] blood pending
                             [**2197-12-5**]  10:53 AM
                             [**2197-12-5**]  10:00 PM
                             [**2197-12-6**]  03:32 AM
                             [**2197-12-6**]  12:22 PM
                             [**2197-12-7**]  03:34 AM
                             [**2197-12-8**]  03:56 AM
                             [**2197-12-8**]  05:23 AM
                             [**2197-12-8**]  03:19 PM
                             [**2197-12-8**]  10:25 PM
                             [**2197-12-9**]  03:54 AM
   WBC
   8.7
   12.7
   13.5
   11.6
   11.0
   10.7
   Hct
   22.8
   25.4
   24.0
   25.7
   26.6
   21.6
   20.7
   25.4
   23.2
   26.7
   Plt
   [**Telephone/Fax (3) 6891**]49
   198
   183
   Cr
   1.5
   1.7
   1.9
   2.0
   1.8
   Glucose
   115
   120
   132
   71
   82
   Other labs: PT / PTT / INR:15.5/30.1/1.4, ALT / AST:24/45, Alk Phos / T
   Bili:64/0.2, Amylase / Lipase:/54, Differential-Neuts:93.0 %, Lymph:3.5
   %, Mono:2.6 %, Eos:0.8 %, Albumin:2.7 g/dL, LDH:283 IU/L, Ca++:7.9
   mg/dL, Mg++:2.6 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   89 yo with PMH of alzheimer's dementia, hypernatremia, urosepsis,
   pneumonia, and recent d/c from MICU presents with AMS, elevated INR and
   frank blood from her tracheostomy.
   .
   # Blood from trach: Seems from clinical history provided by rehab that
   patient's secretions initially were "blood tinged" and progressed to
   frankly blood over the course of the day on [**12-3**]. Her hematocrit in
   the same time period has decreased from 29-->23.8. Bronchoscopy on
   arrival to the ICU demonstrated bloody secretions which did not clear
   but became progressively bloodier making diffuse alveolar hemorrhage
   most likely diagnosis. However, could also represent lesion near trach
   insertion but this is less likely given bronch findings. In the setting
   of anticoagulation with aspirin and coumadin, needs supportive care
   with reversal of INR and workup for diffuse alveolar hemorrhage.  Given
   FFP, Vitamin K PO, and then Vitamin K IV for refractory elevated INR.
   Once INR reversed trach oozing decreased. Needs coagulopathy reversed
   before can safely return to rehab given presenting complaint of
   alveolar hemorrhage. ANCA negative, anti GBM pending.
   - 1x IV vitamin K today, recheck INR tomorrow
   - Active T&S, has new PICC for access
   - antiGBM pending
   - f/u blood cx
   - hold aspirin and coumadin
   - ( to keep in mind: per IP given timeline of 2 weeks s/p trach
   consider CT neck to f/u fistula if bleeding does not stop, HCT does not
   stabilize after correction of coags)
   .
   # Anemia: Hct drop x3 since admission. Transfused 3x with 2U of blood.
   Initial drop explained by DAH. Hct trended down after 2U PRBC given. In
   setting of melena and another Hct drop to 22.8, transfused additional
   2U 2 d ago.  Now w/additional Hct drop to 20.7 today w/out clear
   explanation.  Hemolysis labs sent.  Moderate hematoma in L arm and
   possibly anterior chest, but not enough to explain Hct drop.
   Possibility of spontaneous intraperitoneal or retroperitoneal
   hemorrhage?
   -          Non-contrast abd CT
   -          f/u hemolysis labs
   -          follow hematoma size
   -          Post transfusion Hct, Q12h Hcts
   .
   # Acute renal failure: Likely related to volume depletion secondary to
   blood loss and up titration of lasix at rehab and in MICU as creatinine
   has trended up over the past week per their records.  UOP had been poor
   and unresponsive to lasix but has improved over last 12 h as per
   nursing.  Higher bicarbonate level and FeUREA of 34% would support
   volume depletion as well.  UA w/few eos, rare hyaline casts reported.
   Did have hematuria, but difficult to interpret in setting of indwelling
   foley, elevated INR, and likely UTI. Anti-GBM pending.
   - hold lasix
   - pm lytes
   - spin urine for casts (team to do, not lab)
   - trend creatinine
   - renally dose meds
   - avoid nephrotoxins as possible
   .
   # Respiratory failure: Initial decompensation likely due to diffuse
   alveolar hemorrhage, although contribution of underlying pneumonia,
   fluid overload, and baseline [**Known lastname **] disease (?) likely contribute.  Of
   note, during prior admission patient was unsuccessfully extubated twice
   and could not be weaned off the vent after several attempts due to high
   RISBIs and academia.  The patient continued to be ventilator dependent
   at her rehab facility and has failed trach mask and low pressure
   support ventilation during this admission b/c of very low tidal volumes
   (down to 130
s) which improved after pressure support was increased
   from 10 to 20. Patient
s air movement also did improve after albuterol
   nebulizer treatment as per nurse.   Lasix boluses d/c at this point b/c
   of rising Cr.  Increased albuterol MDI to Q4h yesterday.
   - continue treatment for pneumonia as below
   - chlorhexidine
   - albuterol/atrovent MDI  -
   - PSV trials, continue to try to wean pressure support and peep as
   tolerated
   .
   # Erythema surrounding PEG site.  Erythema likely combination of
   dermatitis/skin breakdown from pressure of PEG on skin w/some
   cellulitic component. Improved after 3 days on vanco and after padded
   bandage placed between PEG and skin
   -          Continue vanco for 10day course
 last day of antibiotics
   [**12-14**]
   .
   # L arm hematoma: Likely due to traumatic picc placement.  Does not
   appear to worsening but will follow closely.  Anterior chest wall mass
   likely a continuation of same process.
   -          warm packs to area
   -          to follow.
   .
   # Paroxysmal afib: The patient was recently started on coumadin at the
   rehab facility with INR now > 5 on coumadin 5 mg daily. CHADs-2 score
   by my calculation only 1 due to age-not clear that patient has h/o
   hypertension or CHF and no documented h/o stroke or DM.
   - hold coumadin and aspirin
   - consider full dose aspirin for anticoagulation once out of acute
   episode
   - patient typically bradycardic per prior d/c summary, not on rate
   control meds
   .
   # Abdominal distension: NTTP.  Resolved with bowel movement.  Had CXR
   several days ago with what appeared to be a large gas bubble in the
   stomach. Repeat  KUB showed no acute process, LFTs and lipase benign.
   When attempt to draw back on PEG no air noted.  In setting of Hct drop
   and spontaneous alveolar bleeding, could possibly due to
   intraperitoneal bleeding?
   - f/u CT result
   .
   # Recent Stenotrophomonas VAP: Bactrim 250 mg IV q8h, stop date today
   per prior d/c summary.
   .
   # Alzheimer's/? altered mental status: Low functioning at baseline.
   Delirium given acute event on top of usual dementia not improving
   situation. To continue home meds when using PEG tube (await KUB
   result).
   .
   # PPx: Increased PPI to [**Hospital1 **], d/c heparin SQ since INR 2.0. Continue
   pneumoboots. Change bowel regimen to prn b/c of diarrhea.
   .
   #FEN: re-start TF as per nutrition.
   .
   # Code: full, confirmed with son [**Name (NI) 6287**] [**Name (NI) 904**] who is HCP
   .
   # Access: Right-sided PICC (placed at [**Hospital1 54**] during previous admission).
   To be removed once Left picc placed by IR
   .
   # Communication: With patient and son [**Name (NI) 6287**] [**Known lastname 6767**]([**Telephone/Fax (1) 6768**] cell
   .
   # Dispo: ICU level care given vent requirement
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 EDEMA, PERIPHERAL
 IMPAIRED SKIN INTEGRITY
 .H/O DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 HEMOPTYSIS
 .H/O ATRIAL FIBRILLATION (AFIB)
 .H/O BACTEREMIA
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2197-12-5**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2197-12-10 05:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2197-12-9**] 09:18 AM
   - family meeting, pt now DNR/DNI
   - Coarse of bactrim finished [**12-8**] -> now w/GNR in sputum gram stain
   from [**12-9**]
   - PEG to gravity, now meds and TF via dobhoff
   - expanding L axilla hematoma, but HCT stable
   - Decent UO overnight 10-35
   Allergies:
   No Known Drug Allergies
   Antibiotics:
   Vancomycin IV
   Ampicillin/Sulbactam (Unasyn)
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2197-12-9**] 07:57 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unable to obtain
   Flowsheet Data as of  [**2197-12-10**] 05:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.5
   HR: 80 (61 - 106) bpm
   BP: 111/46(62) {90/31(46) - 133/100(104)} mmHg
   RR: 23 (16 - 31) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 61 Inch
             Total In:
                                                                  1,030 mL
                                                                    305 mL
   PO:
             TF:
                                                                    226 mL
                                                                    201 mL
   IVF:
                                                                    470 mL
                                                                    104 mL
   Blood products:
                                                                    279 mL
   Total out:
                                                                    728 mL
                                                                    135 mL
   Urine:
                                                                    598 mL
                                                                    135 mL
   NG:
                                                                    130 mL
   Stool:
   Drains:
   Balance:
                                                                    302 mL
                                                                    170 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (0 - 300) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 198
   PIP: 29 cmH2O
   Plateau: 28 cmH2O
   SpO2: 95%
   ABG:
   Ve: 6.6 L/min
   Physical Examination
   gen: eyes open, responds to voice, mouths words.
   neck: trach in place with no blood surrounding insertion site or in
   ventilator tubing
   chest: 6x10cm firm  left flank/chest wall echymosis tracking down from
   L axilla.  Limits of hematoma extend past marker lines.
   pulm: b/l decreased BS at bases, mild crackles b/l
   cv: irreg distant HS, no m/r/g
   abd: firm, non-distended no guarding or rebound, normal bowel sounds,
   no specific areas of palpation which elicits grimace, PEG tube in place
   in LUQ with worsening erythema and induration around site with no
   subcutaneous crepitus appreciated.  There is significant drainage from
   around the PEG insertion site that is bilious appearing and has some
   degree of purulence.  The PEG tube drain to gravity is also draining
   significant amounts of bilious fluid.
   extr: extremities warm, 3+ pitting edema to thighs as well as in b/l UE
   L>R, bruise on right hand, R arm w/bandage over ulcer site. L PICC in
   place with surrounding hematoma and tracking of blood into the axilla,
   left-lateral chest wall, left flank, and under the left breast.
   neuro: tracheostomy in place but mouths words, is responsive to voice
   responsive, increased tone and symmetric minimal purposeful movement in
   all 4 extremities.
   Labs / Radiology
   192 K/uL
   10.5 g/dL
   120 mg/dL
   1.8 mg/dL
   38 mEq/L
   4.0 mEq/L
   44 mg/dL
   93 mEq/L
   137 mEq/L
   30.4 %
   11.8 K/uL
        [image002.jpg]
                             [**2197-12-6**]  03:32 AM
                             [**2197-12-6**]  12:22 PM
                             [**2197-12-7**]  03:34 AM
                             [**2197-12-8**]  03:56 AM
                             [**2197-12-8**]  05:23 AM
                             [**2197-12-8**]  03:19 PM
                             [**2197-12-8**]  10:25 PM
                             [**2197-12-9**]  03:54 AM
                             [**2197-12-9**]  06:30 PM
                             [**2197-12-10**]  03:35 AM
   WBC
   8.7
   12.7
   13.5
   11.6
   11.0
   10.7
   11.8
   Hct
   24.0
   25.7
   26.6
   21.6
   20.7
   25.4
   23.2
   26.7
   29.9
   30.4
   Plt
   [**Telephone/Fax (3) 6891**]49
   198
   183
   192
   Cr
   1.5
   1.7
   1.9
   2.0
   1.8
   1.8
   Glucose
   115
   120
   132
   71
   82
   120
   Other labs:
   PT / PTT / INR:16.5/28.4/1.5
   Ca++:8.1 mg/dL, Mg++:2.8 mg/dL, PO4:2.8 mg/dL
   Micro:
   UCx [**12-7**]: 1 GNR, enterococcus (no further speciation/sensitivities
   listed)
   Sputum gram stain [**12-9**]: 3+ gram negative rods (no further
   speciation/sensitivities listed)
   Radiographic:
   Final Abd/Pelvis CT [**Location (un) 308**]: 1.Gastric tube migration through the
   rectus sheath w/out free air and with continued connection to the
   stomach. 2. no retroperitoneal hematomas, no intraperitoneal blood. 3.
   incidental findings: R staghorn calculus, porcelain gallbladder,
   anasarca, B/L pleural effusions w/atelectasis, severe atherosclerotic
   disease.
   Assessment and Plan
   89 yo with PMH of alzheimer's dementia, hypernatremia, urosepsis,
   pneumonia, and recent d/c from MICU presents with AMS, elevated INR and
   frank blood from her tracheostomy.
   .
   #1 Respiratory failure: Initial decompensation likely due to diffuse
   alveolar hemorrhage, although contribution of underlying pneumonia,
   fluid overload, and baseline [**Known lastname **] disease (?) likely contribute.  Of
   note, during prior admission patient was unsuccessfully extubated twice
   and could not be weaned off the vent after several attempts due to high
   RISBIs  and acidemia.  The patient continued to be ventilator dependent
   at her rehab facility and has failed trach mask and low pressure
   support ventilation during this admission b/c of very low tidal volumes
   (down to 130
s) which improved after pressure support was increased
   from 10 to 20. Patient
s air movement also did improve after albuterol
   nebulizer treatment as per nurse.   Lasix boluses d/c at this point b/c
   of rising Cr.  Stenotrophomonis pneumonia treatment course completed 2
   days ago.  Now w/3+GNR in sputum stain, but culture is not complete yet
   and patient is not spiking fevers or having hypotension so will not
   treat at this point.
   - follow sputum culture
   - albuterol/atrovent MDI
   - slow lasix drip to facilitate diuresis
   - PSV trials, continue to try to wean pressure support and peep as
   tolerated
   .
   # Acute renal failure: Likely related to volume depletion secondary to
   blood loss and up titration of lasix at rehab and in MICU as creatinine
   has trended up over the past week per their records Higher bicarbonate
   level and FeUREA of 34% would support volume depletion as well.  UA
   w/few eos, rare hyaline casts reported.  Did have hematuria, but
   difficult to interpret in setting of indwelling foley, elevated INR,
   and likely UTI. Anti-GBM pending.
   - gentle lasix with PM lytes
   - trend creatinine
   - renally dose meds
   - avoid nephrotoxins as possible
   - staghorn R kidney stone noted on CT could be contributing
   .
   # PEG complications:  Erythema/ Pus around peg likely combination of
   dermatitis/skin breakdown from pressure of PEG on skin w/some
   cellulitic component. Initially improved after 3 days on vanco and
   after padded bandage placed between PEG and skin but has worsened over
   last 48 hours with increasingly purulent exudate around the tube.
   Patient also with erosion of gastric wall around PEG site IP evaluated
   - culture exudate
   - Continue vanco for 10day course
 last day of antibiotics [**12-14**]
   - CT showed Peg balloon eroded into gastric wall, likely source of
   melena. Repositioned by IP. OK for meds but not feeds so dobhoff
   inserted.
   .
   # L arm hematoma: Likely due to traumatic picc placement.  Does not
   appear to worsening but will follow closely.  Anterior chest wall mass
   likely a continuation of same process.
   -          warm packs to area
   -          to follow.
   # Blood from trach: Seems from clinical history provided by rehab that
   patient's secretions initially were "blood tinged" and progressed to
   frankly blood over the course of the day on [**12-3**]. Her hematocrit in
   the same time period has decreased from 29-->23.8. Bronchoscopy on
   arrival to the ICU demonstrated bloody secretions which did not clear
   but became progressively bloodier making diffuse alveolar hemorrhage
   most likely diagnosis. However, could also represent lesion near trach
   insertion but this is less likely given bronch findings. Held aspirin
   and coumadin, reversal of INR with  FFP, Vitamin K PO, and then Vitamin
   K IV .  Once INR reversed trach oozing decreased. ANCA negative, anti
   GBM pending.
   - INR 1.4
   - Active T&S, has new PICC for access
   - antiGBM pending
   - f/u blood cx
   - hold aspirin and coumadin
   - ( to keep in mind: per IP given timeline of 2 weeks s/p trach
   consider CT neck to f/u fistula if bleeding does not stop, HCT does not
   stabilize after correction of coags)
   - wean vent as tolerated
   .
   # Anemia: Hct drop x3 since admission. Transfused 3x with 2U of blood.
   Initial drop explained by DAH. Hct did not bump appropriately, found to
   have melena x1 and repeatedly giauac pos stool. Hemolysis labs sent.
   Enlarging hematoma in L arm, axilla,  and anterior chest, but likely
   source of  Hct drop.  Possibility of spontaneous intraperitoneal or
   retroperitoneal hemorrhage r/o with CT abd yesterday
   -  hemolysis labs negative
   -          follow hematoma size
   -          s/p 1 U pRBC  [**Date range (1) 6895**]
   -          Post transfusion Hct, Q12h Hcts
   .
   .
   # Paroxysmal afib: The patient was recently started on coumadin at the
   rehab facility with INR now > 5 on coumadin 5 mg daily. CHADs-2 score
   by my calculation only 1 due to age-not clear that patient has h/o
   hypertension or CHF and no documented h/o stroke or DM.
   - hold coumadin and aspirin
   - consider full dose aspirin for anticoagulation once out of acute
   episode
   - patient typically bradycardic per prior d/c summary, not on rate
   control meds
   .
   # Abdominal distension: NTTP.  Resolved with bowel movement.  Had CXR
   several days ago with what appeared to be a large gas bubble in the
   stomach. Repeat  KUB showed no acute process, LFTs and lipase benign.
   When attempt to draw back on PEG no air noted.  In setting of Hct drop
   and spontaneous alveolar bleeding, CT abd obtained, no evidence of RP
   bleed
   .
   # porcelain gallbladder: noted on CT abd, associated with
   adenocarcinoma 25% of time. [**Month (only) 60**] need further work up out of ICU
   setting.
   .
   # Recent Stenotrophomonas VAP: Bactrim 250 mg IV q8h, stop date [**12-8**]
   per prior d/c summary.
   .
   # Alzheimer's/? altered mental status: Low functioning at baseline.
   Delirium given acute event on top of usual dementia not improving
   situation. To continue home meds when using PEG tube (await KUB
   result).
   .
   # PPx: Increased PPI to [**Hospital1 **], d/c heparin SQ since INR 2.0. Continue
   pneumoboots. Change bowel regimen to prn b/c of diarrhea.
   .
   #FEN: re-start TF as per nutrition.
   .
   # Code: full, family meeting [**12-9**], family considering DNR
   .
   # Access: Right-sided PICC (placed at [**Hospital1 54**] during previous admission).
   To be removed once Left picc placed by IR
   .
   # Communication: With patient and son [**Name (NI) 6287**] [**Known lastname 6767**]([**Telephone/Fax (1) 6768**] cell
   .
   # Dispo: ICU level care given vent requirement
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2197-12-10**] 12:21 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2197-12-5**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2197-12-11 05:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
     * PEG site looks worse, discharge cultured
     * IP attending evaluated patient, will have endoscopy Monday
       morning and may have sutures placed in PEG endoscopically. Should
       have post-procedure CT scan either Mon or Tues - scan will help
       determine whether PEG needs to be surgically removed or whether can
       heal in place
     * is NPO after midnight for egd tomorrow
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2197-12-8**] 09:00 PM
   Ampicillin/Sulbactam (Unasyn) - [**2197-12-10**] 12:20 PM
 since d/ced
   Vancomycin - [**2197-12-10**] 08:00 PM
   Ampicillin - [**2197-12-11**] 12:00 AM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2197-12-10**] 08:00 PM
   Other medications:
   Zosyn
   Vanco IV
   Metoclopramide
   Senna
   Lactulose
   Albuterol
   Polyethylene glycol
   Colace
   Protonix
   Bisacodyl
   ISS
   Ipratropium
   Chlorhexidine
   tyelnol
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-12-11**] 05:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.4
C (97.6
   HR: 77 (61 - 90) bpm
   BP: 117/58(90) {90/36(49) - 165/79(98)} mmHg
   RR: 22 (20 - 29) insp/min
   SpO2: 97% (95-100)
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 61 Inch
             Total In:
                                                                  1,878 mL
                                                                    160 mL
   PO:
             TF:
                                                                  1,178 mL
   IVF:
                                                                    670 mL
                                                                    160 mL
   Blood products:
   Total out:
                                                                  1,330 mL
                                                                    225 mL
   Urine:
                                                                    665 mL
                                                                    225 mL
   NG:
                                                                    240 mL
   Stool:
   Drains:
   Balance:
                                                                    548 mL
                                                                    -65 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (300 - 300) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 33 cmH2O
   Plateau: 31 cmH2O
   SpO2: 97%
   ABG: ///38/
   Ve: 6.4 L/min
   Physical Examination
   gen: eyes open, responds to voice, mouths words.
   neck: trach in place with no blood surrounding insertion site or in
   ventilator tubing
   chest: 6x10cm firm  left flank/chest wall echymosis tracking down from
   L axilla.  Limits of hematoma extend past marker lines.
   pulm: b/l coarse BS
   cv: irreg distant HS, no m/r/g
   abd: firm, distended no guarding or rebound, normal bowel sounds, no
   specific areas of palpation which elicits grimace, PEG tube in place in
   LUQ with improvingg erythema and induration around site. However there
   is worsening drainage from around the PEG insertion site that is
   purulent. Gas escapes from around the PEG when the pt increases
   intraabd pressure.
   extr: extremities warm, 3+ pitting edema to thighs as well as in b/l UE
   L>R, bruise on right hand, R arm w/bandage over ulcer site. L PICC in
   place with surrounding hematoma and tracking of blood into the axilla,
   left-lateral chest wall, left flank, and under the left breast.
   neuro: tracheostomy in place but mouths words, is responsive to voice
   responsive, increased tone and symmetric minimal purposeful movement in
   all 4 extremities.
   Labs / Radiology
   194 K/uL
   9.9 g/dL
   98 mg/dL
   1.6 mg/dL
   38 mEq/L
   4.0 mEq/L
   42 mg/dL
   95 mEq/L
   138 mEq/L
   28.3 %
   9.5 K/uL
        [image002.jpg]
   Cr: 1.8 to 1.7 to 1.6
   Anti GBM pending
   Micro: swab GS 3+ polys, 2+ GNR, cult pending
   [**12-9**] sputum GS 3+ GNR, cult GNR mod growth
   [**12-7**] Urine GNR 10-100K, enterococcus (VRE) 10-100K
   Cdiff neg x1
   PICC tip NG
   KUB: dobbhoff in duodenum and coiled in stomach
                             [**2197-12-7**]  03:34 AM
                             [**2197-12-8**]  03:56 AM
                             [**2197-12-8**]  05:23 AM
                             [**2197-12-8**]  03:19 PM
                             [**2197-12-8**]  10:25 PM
                             [**2197-12-9**]  03:54 AM
                             [**2197-12-9**]  06:30 PM
                             [**2197-12-10**]  03:35 AM
                             [**2197-12-10**]  06:55 PM
                             [**2197-12-11**]  03:39 AM
   WBC
   13.5
   11.6
   11.0
   10.7
   11.8
   9.5
   Hct
   26.6
   21.6
   20.7
   25.4
   23.2
   26.7
   29.9
   30.4
   28.3
   Plt
   280
   249
   198
   183
   192
   194
   Cr
   1.9
   2.0
   1.8
   1.8
   1.7
   1.6
   Glucose
   132
   71
   82
   120
   133
   98
   Other labs: PT / PTT / INR:15.5/27.8/1.4, ALT / AST:24/45, Alk Phos / T
   Bili:64/0.2, Amylase / Lipase:/54, Differential-Neuts:93.0 %, Lymph:3.5
   %, Mono:2.6 %, Eos:0.8 %, Albumin:2.7 g/dL, LDH:283 IU/L, Ca++:8.2
   mg/dL, Mg++:2.7 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   89 yo with PMH of alzheimer's dementia, hypernatremia, urosepsis,
   pneumonia, and recent d/c from MICU presents with AMS, elevated INR and
   frank blood from her tracheostomy.
   .
   #1 Respiratory failure: Initial decompensation likely due to diffuse
   alveolar hemorrhage, although contribution of underlying pneumonia,
   fluid overload, and baseline [**Known lastname **] disease (?) likely contribute.  Of
   note, during prior admission patient was unsuccessfully extubated twice
   and could not be weaned off the vent after several attempts due to high
   RISBIs  and acidemia.  The patient continued to be ventilator dependent
   at her rehab facility and has failed trach mask and low pressure
   support ventilation during this admission b/c of very low tidal volumes
   (down to 130
s) which improved after pressure support was increased
   from 10 to 20. Patient
s air movement also did improve after albuterol
   nebulizer treatment as per nurse.   Lasix boluses previously caused
   rising Cr.  Stenotrophomonis pneumonia treatment course completed.  Now
   w/3+GNR in sputum stain, but culture is not complete yet and patient is
   not spiking fevers or having hypotension so will not treat at this
   point.
   - sputum cult shows Ecoli, suggestive of aspiration
   - albuterol/atrovent MDI
   - increase lasix drip to facilitate diuresis since cr decreasing  and
   UO increasing
   - PSV trials, continue to try to wean pressure support and peep as
   tolerated
   .
   # Acute renal failure: Likely related to volume depletion secondary to
   blood loss and up titration of lasix at rehab and in MICU as creatinine
   has trended up over the past week per their records Higher bicarbonate
   level and FeUREA of 34% would support volume depletion as well.  UA
   w/few eos, rare hyaline casts reported.  Did have hematuria, but since
   resolved difficult to interpret in setting of indwelling foley,
   elevated INR, and likely UTI. Anti-GBM pending.  Cr now downtrending
   with lasix, perhaps correction of the anemia has improved kidney
   profusion and is allowing further diuresis.
   - lasix gtt with PM lytes
   - trend creatinine
   - renally dose meds
   - avoid nephrotoxins as possible
   - staghorn R kidney stone noted on CT could be contributing
   .
   # PEG complications:  Erythema/ Pus around peg likely combination of
   dermatitis/skin breakdown from pressure of PEG on skin w/some
   cellulitic component. Initially improved after starting  vanco and
   after padded bandage placed between PEG and skin but has worsening
   purulent exudate around the tube. Patient also with erosion of gastric
   wall around PEG site. Endoscopy by IP showed that peg balloon still in
   stomach, was re-positioned to decrease pressure on wall to better allow
   for healing. No free intraperitoneal air was noted on CT. [**12-11**] repeat
   EGD showed dobbhoff still post pyloric. Erosion around peg greatly
   improved. PEG ballon in place. No stiches needed.
   - Culture exudate GS shows 2+ GNR, cult pending. Unasyn switched to
   zosyn  to cover Pseudomonas until final cult results as pus is
   increasing
   - Continue vanco for 10day course for cellulitis
 last day of
   antibiotics [**12-14**]
   - As per IP recommendations, PEG to low intermittent suction.  KUB
   tomorrow to confirm PEG placement, dobhoff placement and r/o free air.
   To re-eval PEG with CT end of week. Plan to restart TF Monday. IP says
   this issue should not keep pt in hospital
   .
   # Positive UA: History of urosepsis with proteus sensitive to unasyn so
   re-started on unasyn while awaiting UCx results.  Culture shows VRE but
   pt remains asymptomatic, no fevers, no WBC. Unasyn switched to zosyn as
   above
   -          monitor for signs of infection
   -          on zosyn for GNR from PEG culture which should cover anyway.
   -          f/u sensitivities
   # L arm hematoma: Likely due to traumatic picc placement.  Blood
   tracking from area expanding but Hct is stable.
   - warm packs to area
   - follow Hct
   .
   # Blood from trach: Seems from clinical history provided by rehab that
   patient's secretions initially were "blood tinged" and progressed to
   frankly blood over the course of the day on [**12-3**]. Her hematocrit in
   the same time period has decreased from 29-->23.8. Bronchoscopy on
   arrival to the ICU demonstrated bloody secretions which did not clear
   but became progressively bloodier making diffuse alveolar hemorrhage
   most likely diagnosis. However, could also represent lesion near trach
   insertion but this is less likely given bronch findings. Held aspirin
   and coumadin, reversal of INR with  FFP, Vitamin K PO, and then Vitamin
   K IV .  Once INR reversed trach oozing decreased. ANCA negative, anti
   GBM pending.
   - INR 1.4
   - Active T&S
   - antiGBM pending
   - hold aspirin and coumadin
   .
   # Anemia: Hct drop x3 since admission. Transfused 3x with 2U of blood.
   Initial drop explained by DAH. Hct did not bump appropriately, found to
   have melena x1 and repeatedly giauac pos stool. Hemolysis labs
   negative.  Enlarging hematoma in L arm, axilla,  and anterior chest,
   but likely source of  Hct drop.  CT showed no intraperitoneal or
   retroperitoneal hemorrhage. Hct stable today. Melena explained by
   gastric wall erosion
   - follow hematoma size
   - follow Hct, transfuse as necessary
   .
   # Paroxysmal afib: The patient was recently started on coumadin at the
   rehab facility with INR now > 5 on coumadin 5 mg daily. CHADs-2 score
   by my calculation only 1 due to age-not clear that patient has h/o
   hypertension or CHF and no documented h/o stroke or DM.
   - hold coumadin and aspirin
   - consider full dose aspirin for anticoagulation once out of acute
   episode
   - patient typically bradycardic per prior d/c summary, not on rate
   control meds
   .
   # Abdominal distension: NTTP.  Has been intermittently present since
   admission. Usually resolves with bowel movement.  LFTs and lipase
   normal. CT w/PEG findings discussed above and porcelain gallbladder,
   but no evidence of intraperitoneal bleed or other intraabdominal
   process.
   - [**Month (only) 60**] need further work up out of ICU setting for finding of porcelain
   gallbladder
   .
   # Alzheimer's/? altered mental status: Low functioning at baseline.
   Delirium given acute event on top of usual dementia not improving
   situation. To continue home meds when using PEG tube (await KUB
   result).
   .
   # PPx:  [**Hospital1 **] PPI, pneumoboots, PRN bowel regimen
   .
   #FEN: TF via dobhoff, following nutrition recommendations.
   .
   # Code: DNR, DNI
   .
   # Access: L Picc
   .
   # Communication: With patient and son [**Name (NI) 6287**] [**Known lastname 6767**]([**Telephone/Fax (1) 6768**] cell
   .
   # Dispo: ICU level care now. Once coagulopathy, infectious, and PEG
   complications resolved, can transfer to rehab.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2197-12-5**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2197-12-12 06:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ENDOSCOPY - At [**2197-12-11**] 09:30 AM
   -Growing [**Last Name (NamePattern4) 6953**] (urine (urine also with VRE), sputum, wound) - d/c
   unasyn and started zosyn, changed to Ceftriaxone
   -Endoscopy recs: PEG to int low suction, CT later on this week, area
   looks less inflamed, better healed
   -Good UOP w/lasix drip to 5mg/hr
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2197-12-10**] 12:20 PM
   Vancomycin - [**2197-12-10**] 08:00 PM
   Ampicillin - [**2197-12-11**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2197-12-12**] 04:02 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2197-12-11**] 09:30 AM
   Fentanyl - [**2197-12-11**] 09:30 AM
   Pantoprazole (Protonix) - [**2197-12-11**] 08:36 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-12-12**] 06:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 74 (57 - 78) bpm
   BP: 110/47(61) {84/36(48) - 141/75(79)} mmHg
   RR: 29 (15 - 29) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 61 Inch
             Total In:
                                                                    536 mL
                                                                    142 mL
   PO:
             TF:
   IVF:
                                                                    536 mL
                                                                    142 mL
   Blood products:
   Total out:
                                                                  1,040 mL
                                                                    350 mL
   Urine:
                                                                    890 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
                                                                    150 mL
   Balance:
                                                                   -504 mL
                                                                   -208 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (300 - 300) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 180
   PIP: 32 cmH2O
   Plateau: 29 cmH2O
   SpO2: 97%
   ABG: ///37/
   Ve: 6.6 L/min
   Physical Examination
   Gen: sedated
   HEENT:  doboff taped to nose, trach in place, no d/c from trach site
   Pulm: breathing per vent, diffuse wheezes
   CV: S1S2, RRR
   Abd: soft, min erythema arounf PEG site with no d/c
   Ext: 2+ pitting, improved from yesterday
   Labs / Radiology
   212 K/uL
   10.0 g/dL
   133 mg/dL
   1.4 mg/dL
   37 mEq/L
   4.1 mEq/L
   39 mg/dL
   98 mEq/L
   140 mEq/L
   28.9 %
   8.9 K/uL
        [image002.jpg]
                             [**2197-12-8**]  05:23 AM
                             [**2197-12-8**]  03:19 PM
                             [**2197-12-8**]  10:25 PM
                             [**2197-12-9**]  03:54 AM
                             [**2197-12-9**]  06:30 PM
                             [**2197-12-10**]  03:35 AM
                             [**2197-12-10**]  06:55 PM
                             [**2197-12-11**]  03:39 AM
                             [**2197-12-11**]  05:25 PM
                             [**2197-12-12**]  04:00 AM
   WBC
   11.0
   10.7
   11.8
   9.5
   8.9
   Hct
   20.7
   25.4
   23.2
   26.7
   29.9
   30.4
   28.3
   28.9
   Plt
   198
   183
   192
   194
   212
   Cr
   1.8
   1.8
   1.7
   1.6
   1.5
   1.4
   Glucose
   82
   120
   133
   98
   97
   133
   Other labs: PT / PTT / INR:15.7/29.7/1.4, ALT / AST:24/45, Alk Phos / T
   Bili:64/0.2, Amylase / Lipase:/54, Differential-Neuts:93.0 %, Lymph:3.5
   %, Mono:2.6 %, Eos:0.8 %, Albumin:2.7 g/dL, LDH:283 IU/L, Ca++:8.1
   mg/dL, Mg++:2.5 mg/dL, PO4:2.6 mg/dL
   [**12-12**] Abd XRay
 no free air, RLL/LLL haziness obscuring diaphragm
   borders, NGT in espophagus, not in duodenum
   [**12-12**] MRSA screen
 pends
   [**12-10**] wound cx
 gram (-) rods, E coli
   [**12-9**] sputum
 E coli
   [**12-10**] urine
 VRE, E coli
   Assessment and Plan
   89 yo with PMH of alzheimer's dementia, hypernatremia, urosepsis,
   pneumonia, and recent d/c from MICU presents with AMS, elevated INR and
   frank blood from her tracheostomy.
   .
   #1 Respiratory failure: Initial decompensation likely due to diffuse
   alveolar hemorrhage, although contribution of underlying pneumonia,
   fluid overload, and baseline [**Known lastname **] disease (?) likely contribute.  Of
   note, during prior admission patient was unsuccessfully extubated twice
   and could not be weaned off the vent after several attempts due to high
   RISBIs  and acidemia.  The patient continued to be ventilator dependent
   at her rehab facility and has failed trach mask and low pressure
   support ventilation during this admission b/c of very low tidal volumes
   (down to 130
s) which improved after pressure support was increased
   from 10 to 20. Patient
s air movement also did improve after albuterol
   nebulizer treatment as per nurse.   Lasix boluses previously caused
   rising Cr.  Stenotrophomonis pneumonia treatment course completed.  E
   coli in sputum, urine and wound
 suggests aspiration.
   - sputum cult shows Ecoli, suggestive of aspiration
   - albuterol/atrovent MDI
   - increase lasix drip to facilitate diuresis since Cr decreasing  and
   UO increasing
 will adjust based on labs
   - will attempt to decreased RR to assess whether pt can breathe over
   vent, failed PSV yesterday
   .
   # Acute renal failure: Likely related to volume depletion secondary to
   blood loss and up titration of lasix at rehab and in MICU as creatinine
   has trended up over the past week per their records Higher bicarbonate
   level and FeUREA of 34% would support volume depletion as well.  UA
   w/few eos, rare hyaline casts reported.  Did have hematuria, but since
   resolved difficult to interpret in setting of indwelling foley,
   elevated INR, and likely UTI. Anti-GBM pending.  Cr now downtrending
   with lasix, perhaps correction of the anemia has improved kidney
   profusion and is allowing further diuresis.
   - lasix gtt with improvement in Cr
 cont to follow lytes
   - trend creatinine
   - renally dose meds
   - avoid nephrotoxins as possible
   - staghorn R kidney stone noted on CT could be contributing
   .
   # PEG complications:  Erythema/ Pus around peg likely combination of
   dermatitis/skin breakdown from pressure of PEG on skin w/some
   cellulitic component. Initially improved after starting  vanco and
   after padded bandage placed between PEG and skin but has worsening
   purulent exudate around the tube. Patient also with erosion of gastric
   wall around PEG site. Endoscopy by IP showed that peg balloon still in
   stomach, was re-positioned to decrease pressure on wall to better allow
   for healing. No free intraperitoneal air was noted on CT. [**12-11**] repeat
   EGD showed dobbhoff still post pyloric. Erosion around peg greatly
   improved. PEG ballon in place. No stiches needed.
   - Culture exudate GS shows 2+ GNR, cult pending. Unasyn switched to
   zosyn  to cover Pseudomonas until final cult results as pus is
   increasing
 switched top vanco
   - Continue vanco for 10day course for cellulitis
 last day of
   antibiotics [**12-14**]
   - As per IP recommendations, PEG to low intermittent suction.  KUB
   tomorrow to confirm PEG placement, dobhoff placement and r/o free air.
   To re-eval PEG with CT end of week. Plan to restart TF Monday. IP says
   this issue should not keep pt in hospital
   .
   # Positive UA: History of urosepsis with proteus sensitive to unasyn so
   re-started on unasyn while awaiting UCx results.  Culture shows VRE but
   pt remains asymptomatic, no fevers, no WBC. Unasyn switched to zosyn as
   above
   -          monitor for signs of infection
   -          e coli grew from cx [**12-12**]
ing wound, urine and sputum E
   coli with Ceftriaxone per sensitivities
   # L arm hematoma: Likely due to traumatic picc placement.  Blood
   tracking from area expanding but Hct is stable.
   - warm packs to area
   - follow Hct
 stable [**12-12**]
   .
   # Blood from trach: Seems from clinical history provided by rehab that
   patient's secretions initially were "blood tinged" and progressed to
   frankly blood over the course of the day on [**12-3**]. Her hematocrit in
   the same time period has decreased from 29-->23.8. Bronchoscopy on
   arrival to the ICU demonstrated bloody secretions which did not clear
   but became progressively bloodier making diffuse alveolar hemorrhage
   most likely diagnosis. However, could also represent lesion near trach
   insertion but this is less likely given bronch findings. Held aspirin
   and coumadin, reversal of INR with  FFP, Vitamin K PO, and then Vitamin
   K IV .  Once INR reversed trach oozing decreased. ANCA negative, anti
   GBM pending.
   - INR 1.4
   - Active T&S
   - antiGBM pending
   - hold aspirin and coumadin
   - stable crits
   - no longer an issue
   .
   # Anemia: Hct drop x3 since admission. Transfused 3x with 2U of blood.
   Initial drop explained by DAH. Hct did not bump appropriately, found to
   have melena x1 and repeatedly giauac pos stool. Hemolysis labs
   negative.  Enlarging hematoma in L arm, axilla,  and anterior chest,
   but likely source of  Hct drop.  CT showed no intraperitoneal or
   retroperitoneal hemorrhage. Hct stable today. Melena explained by
   gastric wall erosion
   - follow hematoma size
   - follow Hct, transfuse as necessary
 crit stable as [**12-12**]
   .
   # Paroxysmal afib: The patient was recently started on coumadin at the
   rehab facility with INR now > 5 on coumadin 5 mg daily. CHADs-2 score
   by my calculation only 1 due to age-not clear that patient has h/o
   hypertension or CHF and no documented h/o stroke or DM.
   - hold coumadin and aspirin
   - consider full dose aspirin for anticoagulation once out of acute
   episode
   - patient typically bradycardic per prior d/c summary, not on rate
   control meds, rate less than 100 over last 24 hrs [**12-12**]
   .
   # Abdominal distension: NTTP.  Has been intermittently present since
   admission. Usually resolves with bowel movement.  LFTs and lipase
   normal. CT w/PEG findings discussed above and porcelain gallbladder,
   but no evidence of intraperitoneal bleed or other intraabdominal
   process.
   -          [**Month (only) 60**] need further work up out of ICU setting for finding of
   porcelain gallbladder
   -          No acute issues
   .
   # Alzheimer's/? altered mental status: Low functioning at baseline.
   Delirium given acute event on top of usual dementia not improving
   situation. To continue home meds when using PEG tube (await KUB
   result).
   .
   # PPx:  [**Hospital1 **] PPI, pneumoboots, PRN bowel regimen
   .
   #FEN: TF via dobhoff, following nutrition recommendations.
   .
   # Code: DNR, DNI
   .
   # Access: L Picc
   .
   # Communication: With patient and son [**Name (NI) 6287**] [**Known lastname 6767**]([**Telephone/Fax (1) 6768**] cell
   .
   # Dispo: ICU level care now. Once coagulopathy, infectious, and PEG
   complications resolved, can transfer to rehab.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 MALNUTRITION
    PEG in place
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HEMORRHAGE/HEMATOMA, PROCEDURE-RELATED (E.G., CATH, PACEMAKER, ICD
   BLEED)
   hematoma s/p L PICC
 DIFFUSE ALVEOLAR HEMMORHAGE (DAH)
 URINARY TRACT INFECTION (UTI)
   colonized with VRE
 ATRIAL FIBRILLATION (AFIB)
 INEFFECTIVE COPING
 ALTERATION IN NUTRITION
 EDEMA, PERIPHERAL
 IMPAIRED SKIN INTEGRITY
 .H/O DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 COMMUNICATE, INABILITY TO
 KNOWLEDGE, IMPAIRED
 POSTURE, IMPAIRED
 BALANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2197-12-11**] 11:30 AM
   Glycemic Control:
   Lines:
   PICC Line - [**2197-12-5**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2197-12-13 05:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - was on lasix gtt at 5mg/hr, d/ced overnight
   -Cr steadily improving, MS improved
   -GNR in sputum, PEG cult, urine all Ecoli, switch abx from zosyn  to
   ceftriaxone
   -s/p repeat CT abd w/o contrast to eval PEG placement, erosion. Study
   to be evaled by IP
   -dobhoff out of place, new dobbhoff placed without sucess in putting
   post-pyloric
   -family very concerned about lack of nutrition in interim. Very
   concerned about chaped lips.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2197-12-10**] 12:20 PM
   Ampicillin - [**2197-12-11**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2197-12-12**] 12:00 PM
   Ceftriaxone - [**2197-12-12**] 04:22 PM
   Vancomycin - [**2197-12-13**] 12:23 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2197-12-12**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2197-12-12**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-12-13**] 05:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.7
C (99.9
   HR: 58 (58 - 92) bpm
   BP: 104/49(62) {86/34(49) - 138/76(85)} mmHg
   RR: 32 (8 - 32) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 61 Inch
             Total In:
                                                                  1,077 mL
                                                                    265 mL
   PO:
             TF:
                                                                    529 mL
   IVF:
                                                                    518 mL
                                                                    265 mL
   Blood products:
   Total out:
                                                                  2,310 mL
                                                                    100 mL
   Urine:
                                                                  2,050 mL
                                                                    100 mL
   NG:
                                                                     60 mL
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                 -1,233 mL
                                                                    165 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (300 - 300) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 180
   PIP: 27 cmH2O
   Plateau: 24 cmH2O
   SpO2: 96%
   ABG: ///40/
   Ve: 8 L/min
   Physical Examination
   Gen: sedated
   HEENT:  doboff taped to nose, trach in place, no d/c from trach site
   Pulm: breathing per vent, diffuse wheezes
   CV: S1S2, RRR
   Abd: soft, min erythema arounf PEG site with no d/c
   Ext: 2+ pitting, improved from yesterday
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   228 K/uL
   9.8 g/dL
   82 mg/dL
   1.4 mg/dL
   40 mEq/L
   3.6 mEq/L
   36 mg/dL
   97 mEq/L
   142 mEq/L
   29.2 %
   7.3 K/uL
        [image002.jpg]
                             [**2197-12-8**]  10:25 PM
                             [**2197-12-9**]  03:54 AM
                             [**2197-12-9**]  06:30 PM
                             [**2197-12-10**]  03:35 AM
                             [**2197-12-10**]  06:55 PM
                             [**2197-12-11**]  03:39 AM
                             [**2197-12-11**]  05:25 PM
                             [**2197-12-12**]  04:00 AM
                             [**2197-12-12**]  04:30 PM
                            [**2197-12-13**]  03:53 AM
   WBC
   10.7
   11.8
   9.5
   8.9
   7.3
   Hct
   23.2
   26.7
   29.9
   30.4
   28.3
   28.9
   29.2
   Plt
   183
   192
   194
   212
   228
   Cr
   1.8
   1.8
   1.7
   1.6
   1.5
   1.4
   1.4
   1.4
   Glucose
   82
   120
   133
   98
   97
   133
   84
   82
   Other labs: PT / PTT / INR:15.7/29.7/1.4, ALT / AST:24/45, Alk Phos / T
   Bili:64/0.2, Amylase / Lipase:/54, Differential-Neuts:93.0 %, Lymph:3.5
   %, Mono:2.6 %, Eos:0.8 %, Albumin:2.7 g/dL, LDH:283 IU/L, Ca++:8.2
   mg/dL, Mg++:2.3 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   89 yo with PMH of alzheimer's dementia, hypernatremia, urosepsis,
   pneumonia, and recent d/c from MICU presents with AMS, elevated INR and
   frank blood from her tracheostomy.
   .
   #1 Respiratory failure: Initial decompensation likely due to diffuse
   alveolar hemorrhage, although contribution of underlying pneumonia,
   fluid overload, and baseline [**Known lastname **] disease (?) likely contribute.  Of
   note, during prior admission patient was unsuccessfully extubated twice
   and could not be weaned off the vent after several attempts due to high
   RISBIs  and acidemia.  The patient continued to be ventilator dependent
   at her rehab facility and has failed trach mask and low pressure
   support ventilation during this admission b/c of very low tidal volumes
   (down to 130
s) which improved after pressure support was increased
   from 10 to 20. Patient
s air movement also did improve after albuterol
   nebulizer treatment as per nurse.   Lasix boluses previously caused
   rising Cr.  Stenotrophomonis pneumonia treatment course completed.  E
   coli in sputum, urine and wound
 suggests aspiration.
   - sputum cult shows Ecoli, suggestive of aspiration
   - albuterol/atrovent MDI
   - increase lasix drip to facilitate diuresis since Cr decreasing  and
   UO increasing
 will adjust based on labs
   - will attempt to decreased RR to assess whether pt can breathe over
   vent, failed PSV yesterday
   .
   # Acute renal failure: Likely related to volume depletion secondary to
   blood loss and up titration of lasix at rehab and in MICU as creatinine
   has trended up over the past week per their records Higher bicarbonate
   level and FeUREA of 34% would support volume depletion as well.  UA
   w/few eos, rare hyaline casts reported.  Did have hematuria, but since
   resolved difficult to interpret in setting of indwelling foley,
   elevated INR, and likely UTI. Anti-GBM pending.  Cr now downtrending
   with lasix, perhaps correction of the anemia has improved kidney
   profusion and is allowing further diuresis.
   - lasix gtt with improvement in Cr
 cont to follow lytes
   - trend creatinine
   - renally dose meds
   - avoid nephrotoxins as possible
   - staghorn R kidney stone noted on CT could be contributing
   .
   # PEG complications:  Erythema/ Pus around peg likely combination of
   dermatitis/skin breakdown from pressure of PEG on skin w/some
   cellulitic component. Initially improved after starting  vanco and
   after padded bandage placed between PEG and skin but has worsening
   purulent exudate around the tube. Patient also with erosion of gastric
   wall around PEG site. Endoscopy by IP showed that peg balloon still in
   stomach, was re-positioned to decrease pressure on wall to better allow
   for healing. No free intraperitoneal air was noted on CT. [**12-11**] repeat
   EGD showed dobbhoff still post pyloric. Erosion around peg greatly
   improved. PEG ballon in place. No stiches needed.
   - Culture exudate GS shows 2+ GNR, cult pending. Unasyn switched to
   zosyn  to cover Pseudomonas until final cult results as pus is
   increasing
 switched top vanco
   - Continue vanco for 10day course for cellulitis
 last day of
   antibiotics [**12-14**]
   - As per IP recommendations, PEG to low intermittent suction.  KUB
   tomorrow to confirm PEG placement, dobhoff placement and r/o free air.
   To re-eval PEG with CT end of week. Plan to restart TF Monday. IP says
   this issue should not keep pt in hospital
   .
   # Positive UA: History of urosepsis with proteus sensitive to unasyn so
   re-started on unasyn while awaiting UCx results.  Culture shows VRE but
   pt remains asymptomatic, no fevers, no WBC. Unasyn switched to zosyn as
   above
   -          monitor for signs of infection
   -          e coli grew from cx [**12-12**]
ing wound, urine and sputum E
   coli with Ceftriaxone per sensitivities
   # L arm hematoma: Likely due to traumatic picc placement.  Blood
   tracking from area expanding but Hct is stable.
   - warm packs to area
   - follow Hct
 stable [**12-12**]
   .
   # Blood from trach: Seems from clinical history provided by rehab that
   patient's secretions initially were "blood tinged" and progressed to
   frankly blood over the course of the day on [**12-3**]. Her hematocrit in
   the same time period has decreased from 29-->23.8. Bronchoscopy on
   arrival to the ICU demonstrated bloody secretions which did not clear
   but became progressively bloodier making diffuse alveolar hemorrhage
   most likely diagnosis. However, could also represent lesion near trach
   insertion but this is less likely given bronch findings. Held aspirin
   and coumadin, reversal of INR with  FFP, Vitamin K PO, and then Vitamin
   K IV .  Once INR reversed trach oozing decreased. ANCA negative, anti
   GBM pending.
   - INR 1.4
   - Active T&S
   - antiGBM pending
   - hold aspirin and coumadin
   - stable crits
   - no longer an issue
   .
   # Anemia: Hct drop x3 since admission. Transfused 3x with 2U of blood.
   Initial drop explained by DAH. Hct did not bump appropriately, found to
   have melena x1 and repeatedly giauac pos stool. Hemolysis labs
   negative.  Enlarging hematoma in L arm, axilla,  and anterior chest,
   but likely source of  Hct drop.  CT showed no intraperitoneal or
   retroperitoneal hemorrhage. Hct stable today. Melena explained by
   gastric wall erosion
   - follow hematoma size
   - follow Hct, transfuse as necessary
 crit stable as [**12-12**]
   .
   # Paroxysmal afib: The patient was recently started on coumadin at the
   rehab facility with INR now > 5 on coumadin 5 mg daily. CHADs-2 score
   by my calculation only 1 due to age-not clear that patient has h/o
   hypertension or CHF and no documented h/o stroke or DM.
   - hold coumadin and aspirin
   - consider full dose aspirin for anticoagulation once out of acute
   episode
   - patient typically bradycardic per prior d/c summary, not on rate
   control meds, rate less than 100 over last 24 hrs [**12-12**]
   .
   # Abdominal distension: NTTP.  Has been intermittently present since
   admission. Usually resolves with bowel movement.  LFTs and lipase
   normal. CT w/PEG findings discussed above and porcelain gallbladder,
   but no evidence of intraperitoneal bleed or other intraabdominal
   process.
   -          [**Month (only) 60**] need further work up out of ICU setting for finding of
   porcelain gallbladder
   -          No acute issues
   .
   # Alzheimer's/? altered mental status: Low functioning at baseline.
   Delirium given acute event on top of usual dementia not improving
   situation. To continue home meds when using PEG tube (await KUB
   result).
   .
   # PPx:  [**Hospital1 **] PPI, pneumoboots, PRN bowel regimen
   .
   #FEN: TF via dobhoff, following nutrition recommendations.
   .
   # Code: DNR, DNI
   .
   # Access: L Picc
   .
   # Communication: With patient and son [**Name (NI) 6287**] [**Known lastname 6767**]([**Telephone/Fax (1) 6768**] cell
   .
   # Dispo: ICU level care now. Once coagulopathy, infectious, and PEG
   complications resolved, can transfer to rehab.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 MALNUTRITION
    PEG in place
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HEMORRHAGE/HEMATOMA, PROCEDURE-RELATED (E.G., CATH, PACEMAKER, ICD
   BLEED)
   hematoma s/p L PICC
 DIFFUSE ALVEOLAR HEMMORHAGE (DAH)
 URINARY TRACT INFECTION (UTI)
   colonized with VRE
 ATRIAL FIBRILLATION (AFIB)
 INEFFECTIVE COPING
 ALTERATION IN NUTRITION
 EDEMA, PERIPHERAL
 IMPAIRED SKIN INTEGRITY
 .H/O DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 COMMUNICATE, INABILITY TO
 KNOWLEDGE, IMPAIRED
 POSTURE, IMPAIRED
 BALANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2197-12-5**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2197-12-14 05:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - d/w IP - PEG okay to use for tube feeds, d/c doboff
   - ensure instructions re: PEG are placed in d/c paperwork - tube cannot
   be pulled out any further, currently at 2.5 cm, tube must be maintained
   at least for the next thre weeks
   - discussed plan with daughter - agreeable to rehab, just wants to
   discuss options with case mgmt
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2197-12-12**] 12:00 PM
   Ceftriaxone - [**2197-12-12**] 04:22 PM
   Vancomycin - [**2197-12-13**] 12:23 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2197-12-13**] 08:07 AM
   Heparin Sodium (Prophylaxis) - [**2197-12-13**] 08:08 AM
   Other medications:
   Lansoprazole
   Lasix
   Metoclopramide
   Senna
   Lactulose
   Albuterol
   Polyethylene glycol
   Colace
   Bisacodyl
   ISS
   Ipratropium
   Chlorhexidine
   tylenol
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-12-14**] 05:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.2
C (98.9
   HR: 80 (57 - 86) bpm
   BP: 116/54(68) {86/37(49) - 116/60(70)} mmHg
   RR: 32 (17 - 33) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 61 Inch
             Total In:
                                                                    846 mL
                                                                    340 mL
   PO:
             TF:
                                                                    275 mL
                                                                    255 mL
   IVF:
                                                                    571 mL
                                                                     85 mL
   Blood products:
   Total out:
                                                                  2,161 mL
                                                                    360 mL
   Urine:
                                                                  2,161 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,315 mL
                                                                    -20 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (300 - 300) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 130
   PIP: 30 cmH2O
   Plateau: 27 cmH2O
   Compliance: 13.6 cmH2O/mL
   SpO2: 97%
   ABG: ///38/
   Ve: 6.6 L/min
   Physical Examination
   Gen: alert and responsive, mouthing words but not following commands.
   Trying to remove trach this am.
   HEENT:  doboff removed, trach in place, no d/c from trach site
   Pulm: breathing per vent, diffuse wheezes
   CV: S1S2, RRR
   Abd: erythema around  PEG resolved, no pus. Abd distended. nontender
   Ext: 2+ pitting in LE, 2+ edema in UE, greatly improved from yesterday.
   L arm hematoma resolving.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Tele: brady to 40s
   Labs / Radiology
   284 K/uL
   10.5 g/dL
   127 mg/dL
   1.5 mg/dL
   38 mEq/L
   3.4 mEq/L
   34 mg/dL
   97 mEq/L
   140 mEq/L
   31.4 %
   6.1 K/uL
         [image002.jpg]
   GBM antibody negative:
   [**12-9**] Suptum Ecoli
   [**12-7**] Urine: Ecoli 10-100K, enterococcus 10-100K
   Wound swab, Ecoli
   CT abd: PEG better placed, no leak around peg
                             [**2197-12-9**]  06:30 PM
                             [**2197-12-10**]  03:35 AM
                             [**2197-12-10**]  06:55 PM
                             [**2197-12-11**]  03:39 AM
                             [**2197-12-11**]  05:25 PM
                             [**2197-12-12**]  04:00 AM
                             [**2197-12-12**]  04:30 PM
                            [**2197-12-13**]  03:53 AM
                            [**2197-12-13**]  02:35 PM
                            [**2197-12-14**]  03:56 AM
   WBC
   11.8
   9.5
   8.9
   7.3
   6.1
   Hct
   29.9
   30.4
   28.3
   28.9
   29.2
   31.4
   Plt
   192
   194
   212
   228
   284
   Cr
   1.8
   1.7
   1.6
   1.5
   1.4
   1.4
   1.4
   1.3
   1.5
   Glucose
   120
   133
   98
   97
   133
   84
   82
   72
   127
   Other labs: PT / PTT / INR:16.1/26.1/1.4, ALT / AST:24/45, Alk Phos / T
   Bili:64/0.2, Amylase / Lipase:/54, Differential-Neuts:87.3 %, Lymph:6.0
   %, Mono:4.5 %, Eos:1.9 %, Albumin:2.7 g/dL, LDH:283 IU/L, Ca++:8.2
   mg/dL, Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   89 yo with PMH of alzheimer's dementia, hypernatremia, urosepsis,
   pneumonia, and recent d/c from MICU presents with AMS, elevated INR and
   frank blood from her tracheostomy.
   .
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   : Initial decompensation likely due to diffuse alveolar hemorrhage,
   although contribution of underlying pneumonia, fluid overload, and
   baseline [**Known lastname **] disease (?) likely contribute.  Of note, during prior
   admission patient was unsuccessfully extubated twice and could not be
   weaned off the vent after several attempts due to high RISBIs  and
   acidemia.  The patient continued to be ventilator dependent at her
   rehab facility and has failed trach mask and low pressure support
   ventilation during this admission b/c of very low tidal volumes (down
   to 130
s) which improved after pressure support was increased from 10
   to 20. Patient
s air movement also did improve after albuterol
   nebulizer treatment as per nurse.   Lasix boluses previously caused
   rising Cr.  Stenotrophomonis pneumonia treatment course completed.  E
   coli in sputum, urine and wound, currently being treated with
   ceftriaxone.
   - E.coli sensitive to ceftriaxone in all three sources. To continue 14
   day course of abx to finish on [**12-25**]
   - continue albuterol/atrovent MDI
   - successfully diuresed with lasix drip to 5mg/hr when TF held. Now
   even I/O. Convert to 60 IV TID for discharge
   - failed attempt on trach mask today after 5 min [**2-4**] RR in 50s
   .
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   : Likely related to volume depletion secondary to blood loss and up
   titration of lasix at rehab and in MICU as creatinine has trended up
   over the past week per their records Higher bicarbonate level and
   FeUREA of 34% would support volume depletion as well.  Did have
   hematuria, but since resolved difficult to interpret in setting of
   indwelling foley, elevated INR, and likely UTI. Anti-GBM negative.  Cr
   now downtrending with lasix, perhaps correction of the anemia has
   improved kidney profusion and is allowing further diuresis.
   -Cr stable between 1.5 to 1.3
   - lasix gtt  converted  to IV lasix 60mg TID
   - trend creatinine, significantly improving
   - renally dose meds
   - avoid nephrotoxins as possible
   .
 MALNUTRITION
    PEG complications:  Erythema/ Pus around peg likely combination of
   dermatitis/skin breakdown from pressure of PEG on skin w/some
   cellulitic component.  Improved after starting  vanco and after padded
   bandage placed between PEG and skin.  Purulent exudate around the tube
   decreased since starting Ecoli treatment. Patient had erosion of
   gastric wall around PEG site. Endoscopy by IP showed that peg balloon
   still in stomach, was re-positioned to decrease pressure on wall to
   better allow for healing. No free intraperitoneal air was noted on CT.
   [**12-11**] repeat  EGD showed erosion around peg greatly improved. PEG ballon
   in place.  This was confirmed on [**12-14**] abd CT, no leakage of gastric
   contents
   - continue ceftriaxone for E.coli (abx day 1 [**12-11**], CTXd1= [**12-12**]) for 14
   days to end [**12-25**]
   - vancomycin for cellulitis d/c today
   - As per IP recommendations.  PEG tip at 2cm from stomach wall, should
   not be moved and allowed 3 wks to heal. Ok to start tube feeds.
   .
 URINARY TRACT INFECTION (UTI)
   : Urine cultures shows E.coli, ceftriaxone sensitive.  Urine clearing
   in color.
   -          monitor for signs of worsening infection
   -          continue antibiotics
   -          also colonized with VRE
 HEMORRHAGE/HEMATOMA, PROCEDURE-RELATED (E.G., CATH, PACEMAKER, ICD
   BLEED)
   : Likely due to traumatic picc placement.  Blood tracking down chest
   wall but Hct is stable.
   - warm packs to area
   - follow Hct
 stable for days
   -echomyoccisis resolving.
   .
 DIFFUSE ALVEOLAR HEMMORHAGE (DAH)
    Blood from trach on  presentation. from clinical history provided by
   rehab that patient's secretions initially were "blood tinged" and
   progressed to frankly blood over the course of the day on [**12-3**]. Her
   hematocrit in the same time period has decreased from 29-->23.8.
   Bronchoscopy on arrival to the ICU demonstrated bloody secretions which
   did not clear but became progressively bloodier making diffuse alveolar
   hemorrhage most likely diagnosis. However, could also represent lesion
   near trach insertion but this is less likely given bronch findings.
   Held aspirin and coumadin, reversal of INR with  FFP, Vitamin K PO, and
   then Vitamin K IV .  Once INR reversed trach oozing decreased. ANCA
   negative, anti GBM negative. HCT stable.
   - INR 1.4
   - Active T&S
   - antiGBM negative
   - hold anticoagulation
   - monitor hct
   .
   # Anemia: Hct drop x3 since admission. Transfused 3x with 2U of blood.
   Initial drop explained by DAH. Hct did not bump appropriately, found to
   have melena x1 and repeatedly giauac pos stool. Hemolysis labs
   negative.  Enlarging hematoma in L arm, axilla,  and anterior chest,
   but likely source of  Hct drop.  CT showed no intraperitoneal or
   retroperitoneal hemorrhage. Hct stable. Melena explained by gastric
   wall erosion.
   - follow hct, currently stable
   .
 ATRIAL FIBRILLATION (AFIB)
   Paroxysmal afib: The patient was recently started on coumadin at the
   rehab facility with INR now > 5 on coumadin 5 mg daily. CHADs-2 score
   by my calculation only 1 due to age-not clear that patient has h/o
   hypertension or CHF and no documented h/o stroke or DM.
   - no anticoagulation at this time
   .
 .H/O DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
    Alzheimer's/? altered mental status: Low functioning at baseline.
   Delirium given acute event on top of usual dementia not improving
   situation. To continue home meds
   .
   # PPx:  [**Hospital1 **] PPI, pneumoboots,  heparin SQ,  PRN bowel regimen
   .
   #FEN: TF via PEG again, following nutrition recommendations.
   .
   # Code: DNR, DNI
   .
   # Access: L Picc
   .
   # Communication: With patient and son [**Name (NI) 6287**] [**Known lastname 6767**]([**Telephone/Fax (1) 6768**] cell
   .
   # Dispo: Awaiting bed in rehab.
 INEFFECTIVE COPING
 ALTERATION IN NUTRITION
 EDEMA, PERIPHERAL
 IMPAIRED SKIN INTEGRITY
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 COMMUNICATE, INABILITY TO
 KNOWLEDGE, IMPAIRED
 POSTURE, IMPAIRED
 BALANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2197-12-13**] 03:00 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2197-12-5**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: